2158-02-13 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - weaned off of dopamine overnight
   - HCT trending down 34.8 -> 25.1, guaiac neg, hemolysis labs sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-2-12**] 04:00 PM
   Vancomycin - [**2158-2-12**] 08:45 PM
   Ciprofloxacin - [**2158-2-13**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2158-2-12**] 04:45 PM
   Pantoprazole (Protonix) - [**2158-2-12**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2158-2-12**] 05:00 PM
   Fentanyl - [**2158-2-12**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-13**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.1
   HR: 106 (88 - 115) bpm
   BP: 102/67(83) {90/44(58) - 128/68(89)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
             Total In:
                                                                 10,259 mL
                                                                  1,062 mL
   PO:
             TF:
                                                                     63 mL
                                                                    161 mL
   IVF:
                                                                  4,136 mL
                                                                    901 mL
   Blood products:
   Total out:
                                                                    648 mL
                                                                    173 mL
   Urine:
                                                                    648 mL
                                                                    173 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,611 mL
                                                                    889 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 440 (440 - 500) mL
   PS : 8 cmH2O
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 14 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/47/91/25/-2
   Ve: 7.4 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General: Intubated, sedated, following commands
   HEENT: dry MM, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse rhonchi apprec at LLL base, not moving air well, diffuse
   expiratory wheezes, prolonged exp phase
   CV: RRR, normal S1/S2, diff to apprec murmur due to lung sounds
   Abdomen:  soft, NTTP, non-distended, NABS, no rebound tenderness or
   guarding, no organomegaly
   Ext: thin skin with tears, 1+ pulses, +1 pitting edema
   Labs / Radiology
   288 K/uL
   8.0 g/dL
   158 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.8 mEq/L
   11 mg/dL
   108 mEq/L
   139 mEq/L
   25.1 %
   15.8 K/uL
        [image002.jpg]
                             [**2158-2-12**]  04:47 PM
                             [**2158-2-12**]  05:06 PM
                             [**2158-2-12**]  10:44 PM
                             [**2158-2-13**]  03:20 AM
                             [**2158-2-13**]  03:42 AM
   WBC
   19.1
   15.8
   Hct
   27.6
   25.1
   Plt
   316
   288
   Cr
   0.3
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   27
   28
   25
   Glucose
   217
   158
   Other labs: PT / PTT / INR:14.8/30.2/1.3, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.4,
   Differential-Neuts:95.6 %, Lymph:2.3 %, Mono:1.6 %, Eos:0.0 %, Lactic
   Acid:0.9 mmol/L, Albumin:1.9 g/dL, LDH:294 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   70 y/o F with severe COPD who presents with hypoxia and respiratory
   failure, now intubated.
   .
   # Resp failure: Pt with severe underlying COPD who p/w fever, hypoxia,
   leukocytosis and infiltrates likely c/w acute PNA.  She received
   Ceftriaxone/Levo in ED though current sputum with pleomorphic gram neg
   coccobaccili likely c/w prior sputums of H.Flu.  Prior sputums have
   been colonized with serratia, aspergillus, MAC, pseudomonas.   Given
   acute decompensation without a pre-intubation ABG, suspect a component
   of hypercarbic resp failure given MS changes & elevated serum bicarb.
   Repeat ABG 7.28/55/75 on 40% FiO2, 500/5.  Awaiting repeat lytes, will
   try to achieve a mild permissive hypercapnea.  Received 10L IVF
   yesterday.
   - f/u sputum, blood Cx , Urine legionella (received Levoflox x 1 in ED)
   - broad spectrum Abx with Vanc, Zosyn & Cipro (double coverage for
   pseudomonas until Cx back)
   - Xopenex nebs
   - stress dose hydrocortisone 100mg q8hr
   - aggressive IVFs
   - continue Vent on AC for now, attempt to wean (PS trial)
   - mouthcare, HOB, PPI
   .
   # Hypotension: Etiology unclear, this may have been due to meds given
   peri-intubation in setting of hypovolemia.  Sepsis also possible given
   fever, leukocytosis and infiltrate on CXR.  Adrenal insufficiency also
   possible given 2months of prednisone use. Aggressive resuscitation with
   IVF, now s/p 10L of IVF.
   - bolus IVF for goal UOP goal >30cc/hr
   - now off dopamine
   - Hydrocortisone 100mg q8hr (stress dose)
   .
   # Chest pain: Pt with recent NSTEMI who presented with hypoxia and was
   denying CP in ED. EKGs with sinus tach in 140s, LBBB and non-specific
   changes from baseline.  First set of CE are negative though pt was
   reporting CP on arrival to ICU.  Given the recent history, possible to
   have demand ischemia with tachycardia.  Will monitor symptoms and cycle
   cardiac enzymes.
   - continue Aspirin 325mg & Atorvastatin 40mg daily.
   - cardiac enzymes negative x2
   - continue to monitor on telemetry, follow EKGs
   - start metoprolol 12.5mg [**Hospital1 7**] for HR>110s
   .
   # Hct drop: Baseline hct in high 30s, down to 25 after 10L of IVF.  Pt
   was clinically hypovolemic on admission with HR 140s.  However, unclear
   etiology to acute drop from baseline.
   - guaic negative
   - hemolysis labs pending
   - maintain active type & screen
   - get [**Hospital 5627**] rehab records
   - PPI and CVL,PIV, PICC for access
   # UTI:  UA with no epis and >10 WBCs consistent with UTI, no prior
   urine cultures in system.
   - contine Zosyn/Cipro as above
   - f/u urine cultures
   .
   # FEN: NPO for now, will consult nutrition for TFs
   - nutrition consult for TF
   - bolus IVF prn
   .
   # Prophylaxis: heparin sc tid, bowel regimen, PPI
   .
   # Access: Left PIV 18 gauge, Right femoral line, left PICC (plan to d/c
   femoral line in am)
   .
   # Code: FULL
   .
   # Disposition: pending above
   .
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-12**] 07:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-2-12**] 01:30 PM
   PICC Line - [**2158-2-12**] 01:30 PM
   18 Gauge - [**2158-2-12**] 01:30 PM
   Arterial Line - [**2158-2-12**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-14 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - unable to extubate patient, was on PSV overnight, but gas this
   morning shows primary uncompensated resp acidosis on RR 18 with light
   sedation, so put back on AC to increase RR
   - continues to have femoral line
   - placed nutrition c/s
   - started metoprolol
   - emailed primary, but need to clarify code status
   - replaced OG tube
   - haptoglobin high, no evidence of hemolysis
   - patient stable overnight, did not start doripenem
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2158-2-13**] 05:00 PM
   Vancomycin - [**2158-2-13**] 08:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-2-14**] 12:06 AM
   Ciprofloxacin - [**2158-2-14**] 04:38 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2158-2-13**] 03:45 PM
   Heparin Sodium (Prophylaxis) - [**2158-2-14**] 12:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-14**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 88 (88 - 112) bpm
   BP: 102/49(66) {72/47(60) - 154/78(99)} mmHg
   RR: 25 (13 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,703 mL
                                                                    674 mL
   PO:
             TF:
                                                                    533 mL
                                                                    225 mL
   IVF:
                                                                  3,050 mL
                                                                    389 mL
   Blood products:
   Total out:
                                                                    803 mL
                                                                    565 mL
   Urine:
                                                                    803 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,900 mL
                                                                    109 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (374 - 500) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.31/51/106/26/-1
   Ve: 9 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General: Intubated, sedated, following commands
   HEENT: dry MM, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse rhonchi apprec at LLL base, not moving air well, diffuse
   expiratory wheezes, prolonged exp phase
   CV: RRR, normal S1/S2, diff to apprec murmur due to lung sounds
   Abdomen:  soft, NTTP, non-distended, NABS, no rebound tenderness or
   guarding, no organomegaly
   Ext: thin skin with tears, 1+ pulses, +1 pitting edema
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   306 K/uL
   8.6 g/dL
   121 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.0 mEq/L
   16 mg/dL
   108 mEq/L
   140 mEq/L
   26.7 %
   24.4 K/uL
        [image002.jpg]
                             [**2158-2-12**]  04:47 PM
                             [**2158-2-12**]  05:06 PM
                             [**2158-2-12**]  10:44 PM
                             [**2158-2-13**]  03:20 AM
                             [**2158-2-13**]  03:42 AM
                             [**2158-2-13**]  07:38 PM
                             [**2158-2-13**]  07:53 PM
                             [**2158-2-14**]  03:59 AM
                             [**2158-2-14**]  04:15 AM
                             [**2158-2-14**]  06:29 AM
   WBC
   19.1
   15.8
   21.5
   24.4
   Hct
   27.6
   25.1
   26.5
   26.7
   Plt
   [**Telephone/Fax (3) 5669**]06
   Cr
   0.3
   0.5
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   27
   28
   25
   24
   27
   27
   Glucose
   [**Telephone/Fax (3) 5670**]
   Other labs: PT / PTT / INR:14.0/28.0/1.2, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.6 %, Lymph:2.3 %, Mono:1.6 %, Eos:0.0 %, Lactic
   Acid:0.7 mmol/L, Albumin:1.9 g/dL, LDH:315 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   70 y/o F with severe COPD who presents with hypoxia and respiratory
   failure, now intubated.
   .
   # Resp failure: Pt with severe underlying COPD who p/w fever, hypoxia,
   leukocytosis and infiltrates likely c/w acute PNA.  She received
   Ceftriaxone/Levo in ED though current sputum with pleomorphic gram neg
   coccobaccili likely c/w prior sputums of H.Flu.  Prior sputums have
   been colonized with serratia, aspergillus, MAC, pseudomonas.   Given
   acute decompensation without a pre-intubation ABG, suspect a component
   of hypercarbic resp failure given MS changes & elevated serum bicarb.
   Will try to achieve a mild permissive hypercapnea.  Failed PSV 2/10 PM
   [**2-6**] primary respiratory acidosis.
   - f/u sputum, blood Cx; Urine legionella (received Levoflox x 1 in ED)
   neg
   - broad spectrum Abx with Vanc, Zosyn until cxs finalized
   - d/c Cipro given lack of evidence of Pseudomonas on sputum cx
   - MDI while intubated (pt with auto-PEEP), transition to nebs once
   extubated
   - attempt to wean from vent
   - mouthcare, HOB elevated
   .
   # Hypotension: Etiology unclear, this may have been due to meds given
   peri-intubation in setting of hypovolemia.  Sepsis also possible given
   fever, leukocytosis and infiltrate on CXR.  Adrenal insufficiency also
   possible given 2months of prednisone use. Aggressive resuscitation with
   IVF, s/p 10L of IVF on initial presentation.  Hypotension now resolved.
   - now off dopamine
   - bolus IVF for goal UOP goal >30cc/hr
   - Hydrocortisone 100mg q8hr (stress dose)
   - goal neutral fluid balance today
   .
   # Chest pain: Pt with recent NSTEMI who presented with hypoxia and was
   denying CP in ED. EKGs with sinus tach in 140s, LBBB and non-specific
   changes from baseline.  First set of CE are negative though pt was
   reporting CP on arrival to ICU.  Given the recent history, possible to
   have demand ischemia with tachycardia.  Will monitor symptoms and cycle
   cardiac enzymes.
   - continue Aspirin 325mg & Atorvastatin 40mg daily.
   - cardiac enzymes negative x2
   - continue to monitor on telemetry, follow EKGs
   - titrate up metoprolol to 25mg [**Hospital1 7**]
   .
   # Hct drop: Baseline hct in high 30s, down to 25 after 10L of IVF.  Pt
   was clinically hypovolemic on admission with HR 140s.  However, unclear
   etiology to acute drop from baseline.
   - guiaic negative
   - hemolysis labs negative
   - maintain active type & screen
   - get [**Hospital 5627**] rehab records
   - PPI and CVL,PIV, PICC for access
   # UTI:  UA with no epis and >10 WBCs consistent with UTI, no prior
   urine cultures in system.
   - contine Zosyn/Cipro as above
   - f/u urine cultures
   .
   # FEN: NPO for now, will consult nutrition for TFs
   - started TFs
   .
   # Prophylaxis: heparin sc tid, bowel regimen, PPI
   .
   # Access: Left PIV 18 gauge, Right femoral line, left PICC (plan to d/c
   femoral line today)
   .
   # Code: FULL
   .
   # Disposition: pending above
   .
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-14**] 03:33 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-2-12**] 01:30 PM
   PICC Line - [**2158-2-12**] 01:30 PM
   18 Gauge - [**2158-2-12**] 01:30 PM
   Arterial Line - [**2158-2-14**] 01:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-15 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - cipro d/c'ed as no longer need double coverage for pseudomonas
   - PS trial failed with gas 7.28 / 58 / 93; placed back no AC
   - fem line pulled
   - IV lasix 20 mg x1 for slightly positive fluid status
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2158-2-13**] 05:00 PM
   Ciprofloxacin - [**2158-2-14**] 04:38 AM
   Vancomycin - [**2158-2-14**] 07:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-2-15**] 12:38 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2158-2-14**] 11:15 PM
   Heparin Sodium (Prophylaxis) - [**2158-2-15**] 12:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-15**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 91 (74 - 102) bpm
   BP: 153/72(101) {88/43(59) - 164/77(109)} mmHg
   RR: 19 (16 - 28) insp/min
   SpO2: 20%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,484 mL
                                                                    753 mL
   PO:
             TF:
                                                                    925 mL
                                                                    274 mL
   IVF:
                                                                  1,339 mL
                                                                    299 mL
   Blood products:
   Total out:
                                                                  1,604 mL
                                                                    960 mL
   Urine:
                                                                  1,604 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    880 mL
                                                                   -207 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 491 (491 - 491) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 20%
   ABG: 7.40/42/112/29/1
   Ve: 10.5 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General: Intubated, sedated, following commands
   HEENT: dry MM, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse rhonchi apprec at LLL base, not moving air well, diffuse
   expiratory wheezes, prolonged exp phase
   CV: RRR, normal S1/S2, diff to apprec murmur due to lung sounds
   Abdomen:  soft, NTTP, non-distended, NABS, no rebound tenderness or
   guarding, no organomegaly
   Ext: thin skin with tears, 1+ pulses, +1 pitting edema, cachectic [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 582**] / Radiology
   320 K/uL
   8.2 g/dL
   135 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.5 mEq/L
   22 mg/dL
   104 mEq/L
   140 mEq/L
   24.8 %
   20.3 K/uL
        [image002.jpg]
                             [**2158-2-13**]  03:20 AM
                             [**2158-2-13**]  03:42 AM
                             [**2158-2-13**]  07:38 PM
                             [**2158-2-13**]  07:53 PM
                             [**2158-2-14**]  03:59 AM
                             [**2158-2-14**]  04:15 AM
                             [**2158-2-14**]  06:29 AM
                             [**2158-2-14**]  03:07 PM
                             [**2158-2-14**]  05:40 PM
                             [**2158-2-15**]  02:50 AM
   WBC
   15.8
   21.5
   24.4
   20.3
   Hct
   25.1
   26.5
   26.7
   24.8
   Plt
   288
   301
   306
   320
   Cr
   0.5
   1.0
   1.1
   TropT
   <0.01
   TCO2
   25
   24
   27
   27
   28
   27
   Glucose
   158
   121
   135
   Other labs: PT / PTT / INR:14.0/29.4/1.2, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.6 %, Lymph:2.3 %, Mono:1.6 %, Eos:0.0 %, Lactic
   Acid:0.7 mmol/L, Albumin:1.9 g/dL, LDH:315 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   70 y/o F with severe COPD who presents with hypoxia and respiratory
   failure, now intubated.
   .
   # Resp failure: Pt with severe underlying COPD who p/w fever, hypoxia,
   leukocytosis and infiltrates likely c/w acute PNA.  She received
   Ceftriaxone/Levo in ED though current sputum with pleomorphic gram neg
   coccobaccili likely c/w prior sputums of H.Flu.  Prior sputums have
   been colonized with serratia, aspergillus, MAC, pseudomonas.   Given
   acute decompensation without a pre-intubation ABG, suspect a component
   of hypercarbic resp failure given MS changes & elevated serum bicarb.
   Will try to achieve a mild permissive hypercapnea.  Failed PSV 2/10 PM
   [**2-6**] primary respiratory acidosis.
   - sputum -> moderate H. flu, blood Cx pending; Urine legionella
   (received Levoflox x 1 in ED) neg
   - d/c Vanc, cont Zosyn for H. flu
   - MDI while intubated (pt with auto-PEEP), transition to nebs once
   extubated
   - unlikely to be weaned from vent soon, will consider trach -> will d/w
   pt/family/Dr. [**Last Name (STitle) 1621**]
   - goal 1L neg today
   - mouthcare, HOB elevated
   .
   # Hypotension: Etiology unclear, this may have been due to meds given
   peri-intubation in setting of hypovolemia.  Sepsis also possible given
   fever, leukocytosis and infiltrate on CXR.  Adrenal insufficiency also
   possible given 2months of prednisone use. Aggressive resuscitation with
   IVF, s/p 10L of IVF on initial presentation.  Hypotension now resolved.
   - now off dopamine
   - Hydrocortisone 100mg q8hr (stress dose)
   - goal 1L neg today
   .
   # Chest pain: Pt with recent NSTEMI who presented with hypoxia and was
   denying CP in ED. EKGs with sinus tach in 140s, LBBB and non-specific
   changes from baseline.  First set of CE are negative though pt was
   reporting CP on arrival to ICU.  Given the recent history, possible to
   have demand ischemia with tachycardia.  Will monitor symptoms and cycle
   cardiac enzymes.
   - continue Aspirin 325mg & Atorvastatin 40mg daily.
   - cardiac enzymes negative x3
   - continue to monitor on telemetry, follow EKGs
   - cont metoprolol to 25mg [**Hospital1 7**]
   .
   # Hct drop: Baseline hct in high 30s, down to 25 after 10L of IVF.  Pt
   was clinically hypovolemic on admission with HR 140s.  However, unclear
   etiology to acute drop from baseline.
   - guiaic negative
   - hemolysis labs negative
   - maintain active type & screen
   - get [**Hospital 5627**] rehab records
   - PPI and CVL,PIV, PICC for access
   # UTI:  UA with no epis and >10 WBCs consistent with UTI, no prior
   urine cultures in system.
   - urine cxs negative
   .
   # FEN: NPO for now, will consult nutrition for TFs
   - cont TFs
   .
   # Prophylaxis: heparin sc tid, bowel regimen, PPI
   .
   # Access: Left PIV 18 gauge, Right femoral line, left PICC (plan to d/c
   femoral line today)
   .
   # Code: FULL
   .
   # Disposition: pending above
   .
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-15**] 05:16 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   18 Gauge - [**2158-2-12**] 01:30 PM
   Arterial Line - [**2158-2-14**] 01:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-16 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-15**] Events:
   - t/b with Dr. [**Last Name (STitle) 1621**] regarding recs for trach
   - fem line d/c
   - tolerated PSV 10 PEEP 8
   - back on AC 50%/500/18/8 overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2158-2-13**] 05:00 PM
   Ciprofloxacin - [**2158-2-14**] 04:38 AM
   Vancomycin - [**2158-2-14**] 07:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-2-15**] 11:50 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-15**] 11:27 PM
   Midazolam (Versed) - [**2158-2-15**] 11:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-16**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.6
   HR: 99 (75 - 108) bpm
   BP: 142/81(100) {79/40(53) - 180/81(116)} mmHg
   RR: 20 (13 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,407 mL
                                                                    433 mL
   PO:
             TF:
                                                                    969 mL
                                                                    274 mL
   IVF:
                                                                  1,048 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                  3,095 mL
                                                                    450 mL
   Urine:
                                                                  3,095 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -688 mL
                                                                    -17 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 457 (457 - 555) mL
   PS : 10 cmH2O
   RR (Set): 18
   PEEP: 8 cmH2O
   RSBI: 63
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.39/50/103/32/3
   Ve: 9.9 L/min
   Physical Examination
   General: Intubated, sedated, following commands
   HEENT: dry MM, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse rhonchi apprec at LLL base, not moving air well, no
   wheezes, prolonged exp phase
   CV: RRR, normal S1/S2, diff to apprec murmur due to lung sounds
   Abdomen:  soft, NTTP, non-distended, NABS, no rebound tenderness or
   guarding, no organomegaly
   Ext: thin skin with tears, 1+ pulses, +2 pitting edema, cachectic [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 582**] / Radiology
   302 K/uL
   7.9 g/dL
   107 mg/dL
   1.2 mg/dL
   32 mEq/L
   3.1 mEq/L
   30 mg/dL
   106 mEq/L
   146 mEq/L
   24.1 %
   17.4 K/uL
        [image002.jpg]
                             [**2158-2-13**]  07:38 PM
                             [**2158-2-13**]  07:53 PM
                             [**2158-2-14**]  03:59 AM
                             [**2158-2-14**]  04:15 AM
                             [**2158-2-14**]  06:29 AM
                             [**2158-2-14**]  03:07 PM
                             [**2158-2-14**]  05:40 PM
                             [**2158-2-15**]  02:50 AM
                             [**2158-2-15**]  03:36 PM
                             [**2158-2-16**]  02:05 AM
   WBC
   21.5
   24.4
   20.3
   17.4
   Hct
   26.5
   26.7
   24.8
   24.1
   Plt
   [**Telephone/Fax (3) 5712**]02
   Cr
   1.0
   1.1
   1.2
   TCO2
   24
   27
   27
   28
   27
   31
   Glucose
   121
   135
   107
   Other labs: PT / PTT / INR:14.2/29.8/1.2, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.6 %, Lymph:2.3 %, Mono:1.6 %, Eos:0.0 %, Lactic
   Acid:0.7 mmol/L, Albumin:1.9 g/dL, LDH:315 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   y/o F with severe COPD who presents with hypoxia and respiratory
   failure, now intubated.
   .
   # Resp failure: Pt with severe underlying COPD who p/w fever, hypoxia,
   leukocytosis and infiltrates likely c/w acute PNA.  She received
   Ceftriaxone/Levo in ED though current sputum with pleomorphic gram neg
   coccobaccili likely c/w prior sputums of H.Flu.  Prior sputums have
   been colonized with serratia, aspergillus, MAC, pseudomonas.   Given
   acute decompensation without a pre-intubation ABG, suspect a component
   of hypercarbic resp failure given MS changes & elevated serum bicarb.
   Will try to achieve a mild permissive hypercapnea.  Failed PSV 2/10 PM
   [**2-6**] primary respiratory acidosis.
   - sputum -> moderate H. flu, blood Cx pending; Urine legionella
   (received Levoflox x 1 in ED) neg
   - d/c Vanc, cont Zosyn for H. flu
   - MDI while intubated (pt with auto-PEEP), transition to nebs once
   extubated
   - unlikely to be weaned from vent soon, will consider trach -> will d/w
   pt/family/Dr. [**Last Name (STitle) 1621**]
   - goal 1L neg today
   - mouthcare, HOB elevated
   .
   # Hypotension: Etiology unclear, this may have been due to meds given
   peri-intubation in setting of hypovolemia.  Sepsis also possible given
   fever, leukocytosis and infiltrate on CXR.  Adrenal insufficiency also
   possible given 2months of prednisone use. Aggressive resuscitation with
   IVF, s/p 10L of IVF on initial presentation.  Hypotension now resolved.
   - Hydrocortisone 100mg q8hr (stress dose)
   - goal 1L neg today
   .
   # ARF
 pre-renal from lasix administration
   .
   # Chest pain: Pt with recent NSTEMI who presented with hypoxia and was
   denying CP in ED. EKGs with sinus tach in 140s, LBBB and non-specific
   changes from baseline.  First set of CE are negative though pt was
   reporting CP on arrival to ICU.  Given the recent history, possible to
   have demand ischemia with tachycardia.  Will monitor symptoms and cycle
   cardiac enzymes.
   - continue Aspirin 325mg & Atorvastatin 40mg daily.
   - cardiac enzymes negative x3
   - continue to monitor on telemetry, follow EKGs
   - cont metoprolol to 25mg [**Hospital1 7**]
   .
   # Hct drop: Baseline hct in high 30s, down to 25 after 10L of IVF.  Pt
   was clinically hypovolemic on admission with HR 140s.  However, unclear
   etiology to acute drop from baseline.
   - transfusing one unit PRBC now
   - guiaic negative
   - hemolysis labs negative
   - maintain active type & screen
   - get [**Hospital 5627**] rehab records
   - PPI and CVL,PIV, PICC for access
   .
   # Depression
 Celexa 10mg PO daily started for passive SI
   .
   # UTI:  UA with no epis and >10 WBCs consistent with UTI, no prior
   urine cultures in system.
   - urine cxs negative
   .
   # FEN: NPO for now, will consult nutrition for TFs
   - cont TFs
   .
   # Prophylaxis: heparin sc tid, bowel regimen, PPI
   .
   # Access: Left PIV 18 gauge, Right femoral line, left PICC (plan to d/c
   femoral line today)
   .
   # Code: FULL
   .
   # Disposition: pending above
   -          SW c/s
   -          Will discuss with niece re trach, [**Doctor First Name 387**] spoke to family
   today
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-16**] 05:07 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   Arterial Line - [**2158-2-14**] 01:50 AM
   20 Gauge - [**2158-2-15**] 01:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-17 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2158-2-16**] 01:08 PM
   [**2-16**] Events:
   - discussion with niece and other family member re trach
   - placed s/w c/s
   - transfused 1u PRBC
   - family meeting today re trach and code status
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2158-2-14**] 07:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-2-16**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-17**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.1
C (97
   HR: 80 (68 - 100) bpm
   BP: 130/56(73) {96/42(57) - 168/80(102)} mmHg
   RR: 19 (17 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,038 mL
                                                                    496 mL
   PO:
             TF:
                                                                    970 mL
                                                                    277 mL
   IVF:
                                                                    798 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                    430 mL
   Urine:
                                                                  1,230 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    808 mL
                                                                     66 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 31 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: ///34/
   Ve: 10.3 L/min
   Physical Examination
   General: Intubated, sedated, following commands
   HEENT: dry MM, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse rhonchi apprec at LLL base, not moving air well, no
   wheezes, prolonged exp phase
   CV: RRR, normal S1/S2, diff to apprec murmur due to lung sounds
   Abdomen:  soft, NTTP, non-distended, NABS, no rebound tenderness or
   guarding, no organomegaly
   Ext: thin skin with tears, 1+ pulses, +2 pitting edema, cachectic [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 582**] / Radiology
   255 K/uL
   9.1 g/dL
   119 mg/dL
   1.1 mg/dL
   34 mEq/L
   3.6 mEq/L
   33 mg/dL
   107 mEq/L
   146 mEq/L
   26.5 %
   19.4 K/uL
        [image002.jpg]
                             [**2158-2-14**]  03:59 AM
                             [**2158-2-14**]  04:15 AM
                             [**2158-2-14**]  06:29 AM
                             [**2158-2-14**]  03:07 PM
                             [**2158-2-14**]  05:40 PM
                             [**2158-2-15**]  02:50 AM
                             [**2158-2-15**]  03:36 PM
                             [**2158-2-16**]  02:05 AM
                             [**2158-2-16**]  03:53 PM
                             [**2158-2-17**]  02:44 AM
   WBC
   24.4
   20.3
   17.4
   19.4
   Hct
   26.7
   24.8
   24.1
   30.9
   26.5
   Plt
   [**Telephone/Fax (3) 5732**]55
   Cr
   1.0
   1.1
   1.2
   1.1
   TCO2
   27
   27
   28
   27
   31
   Glucose
   121
   135
   107
   119
   Other labs: PT / PTT / INR:13.4/32.1/1.1, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.6 %, Lymph:2.3 %, Mono:1.6 %, Eos:0.0 %, Lactic
   Acid:0.7 mmol/L, Albumin:1.9 g/dL, LDH:315 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   70 y/o F with severe COPD who presents with hypoxia and respiratory
   failure, now intubated.
   .
   # Resp failure: Pt with severe underlying COPD who p/w fever, hypoxia,
   leukocytosis and infiltrates likely c/w acute PNA.  She received
   Ceftriaxone/Levo in ED though current sputum with pleomorphic gram neg
   coccobaccili likely c/w prior sputums of H.Flu.  Prior sputums have
   been colonized with serratia, aspergillus, MAC, pseudomonas.   Given
   acute decompensation without a pre-intubation ABG, suspect a component
   of hypercarbic resp failure given MS changes & elevated serum bicarb.
   Will try to achieve a mild permissive hypercapnea.  Failed PSV 2/10 PM
   [**2-6**] primary respiratory acidosis.
   - sputum -> moderate H. flu, blood Cx pending; Urine legionella
   (received Levoflox x 1 in ED) neg
   - d/c Vanc, cont Zosyn for H. flu
   - MDI while intubated (pt with auto-PEEP), transition to nebs once
   extubated
   - unlikely to be weaned from vent soon, will consider trach -> will d/w
   pt/family/Dr. [**Last Name (STitle) 1621**]
   - goal 1L neg today
   - mouthcare, HOB elevated
   .
   # Hypotension: Etiology unclear, this may have been due to meds given
   peri-intubation in setting of hypovolemia.  Sepsis also possible given
   fever, leukocytosis and infiltrate on CXR.  Adrenal insufficiency also
   possible given 2months of prednisone use. Aggressive resuscitation with
   IVF, s/p 10L of IVF on initial presentation.  Hypotension now resolved.
   - Hydrocortisone 100mg q8hr (stress dose)
   - goal 1L neg today
   .
   # ARF
 pre-renal from lasix administration
   .
   # Chest pain: Pt with recent NSTEMI who presented with hypoxia and was
   denying CP in ED. EKGs with sinus tach in 140s, LBBB and non-specific
   changes from baseline.  First set of CE are negative though pt was
   reporting CP on arrival to ICU.  Given the recent history, possible to
   have demand ischemia with tachycardia.  Will monitor symptoms and cycle
   cardiac enzymes.
   - continue Aspirin 325mg & Atorvastatin 40mg daily.
   - cardiac enzymes negative x3
   - continue to monitor on telemetry, follow EKGs
   - cont metoprolol to 25mg [**Hospital1 7**]
   .
   # Hct drop: Baseline hct in high 30s, down to 25 after 10L of IVF.  Pt
   was clinically hypovolemic on admission with HR 140s.  However, unclear
   etiology to acute drop from baseline.
   - transfusing one unit PRBC now
   - guiaic negative
   - hemolysis labs negative
   - maintain active type & screen
   - get [**Hospital 5627**] rehab records
   - PPI and CVL,PIV, PICC for access
   .
   # Depression
 Celexa 10mg PO daily started for passive SI
   .
   # UTI:  UA with no epis and >10 WBCs consistent with UTI, no prior
   urine cultures in system.
   - urine cxs negative
   .
   # FEN: NPO for now, will consult nutrition for TFs
   - cont TFs
   .
   # Prophylaxis: heparin sc tid, bowel regimen, PPI
   .
   # Access: Left PIV 18 gauge, Right femoral line, left PICC (plan to d/c
   femoral line today)
   .
   # Code: FULL
   .
   # Disposition: pending above
   -          SW c/s
   -          Will discuss with niece re trach, [**Doctor First Name 387**] spoke to family
   today
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-17**] 04:49 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   20 Gauge - [**2158-2-15**] 01:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-18 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - niece came and had meeting with pt and Dr. [**Last Name (STitle) 1621**], decided that
   she wanted to go ahead with a trach
   - changed abx to ceftriaxone per pharm recommendation
   - plan to call IP for trach eval
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-2-16**] 08:00 AM
   Ceftriaxone - [**2158-2-17**] 10:19 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-18**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 76 (68 - 95) bpm
   BP: 101/46(60) {101/46(60) - 166/86(96)} mmHg
   RR: 18 (13 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,858 mL
                                                                    395 mL
   PO:
             TF:
                                                                  1,128 mL
                                                                    268 mL
   IVF:
                                                                    398 mL
                                                                     97 mL
   Blood products:
                                                                    212 mL
   Total out:
                                                                  1,190 mL
                                                                    270 mL
   Urine:
                                                                  1,190 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    668 mL
                                                                    125 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 17
   PIP: 30 cmH2O
   Plateau: 19 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 98%
   ABG: ///35/
   Ve: 10.9 L/min
   Physical Examination
   General: Intubated, sedated, following commands
   HEENT: dry MM, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse rhonchi apprec at LLL base, not moving air well, no
   wheezes, prolonged exp phase
   CV: RRR, normal S1/S2, diff to apprec murmur due to lung sounds
   Abdomen:  soft, NTTP, non-distended, NABS, no rebound tenderness or
   guarding, no organomegaly
   Ext: thin skin with tears, 1+ pulses, 2+ pitting edema, cachectic [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 582**] / Radiology
   279 K/uL
   9.7 g/dL
   102 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.7 mEq/L
   32 mg/dL
   108 mEq/L
   148 mEq/L
   29.8 %
   20.7 K/uL
        [image002.jpg]
                             [**2158-2-14**]  04:15 AM
                             [**2158-2-14**]  06:29 AM
                             [**2158-2-14**]  03:07 PM
                             [**2158-2-14**]  05:40 PM
                             [**2158-2-15**]  02:50 AM
                             [**2158-2-15**]  03:36 PM
                             [**2158-2-16**]  02:05 AM
                             [**2158-2-16**]  03:53 PM
                             [**2158-2-17**]  02:44 AM
                             [**2158-2-18**]  03:32 AM
   WBC
   20.3
   17.4
   19.4
   20.7
   Hct
   24.8
   24.1
   30.9
   26.5
   29.8
   Plt
   [**Telephone/Fax (3) 5768**]79
   Cr
   1.1
   1.2
   1.1
   0.9
   TCO2
   27
   27
   28
   27
   31
   Glucose
   135
   107
   119
   102
   Other labs: PT / PTT / INR:13.3/32.1/1.1, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.6 %, Lymph:2.3 %, Mono:1.6 %, Eos:0.0 %, Lactic
   Acid:0.7 mmol/L, Albumin:1.9 g/dL, LDH:315 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   70 y/o F with severe COPD who presents with hypoxia and respiratory
   failure, now intubated.
   .
   # Resp failure: Pt with severe underlying COPD who p/w fever, hypoxia,
   leukocytosis and infiltrates likely c/w acute PNA.  She received
   Ceftriaxone/Levo in ED though current sputum with pleomorphic gram neg
   coccobaccili likely c/w prior sputums of H.Flu.  Prior sputums have
   been colonized with serratia, aspergillus, MAC, pseudomonas.   Patient
   had a component of hypercarbic resp failure given MS changes & elevated
   serum bicarb. MDI while intubated. Patient was able to tolerate
   PS10/PEEP8 yesterday for approx 2 hrs [**2-16**]. Sputum showed moderate H.
   flu beta-lactamase negative, changed to ceftriaxone. Initally, vanc was
   d/c
ed and patient was kept on Zosyn until found to be flu
   beta-lactamase negative.
   - continue ceftriaxone
   - family meeting with Dr. [**Last Name (STitle) 1621**], plan for trach
   - mouthcare, HOB elevated
   .
   # ARF: pre-renal from lasix administration
   .
   # Hypotension: Resolved, this may have been due to meds given
   peri-intubation in setting of hypovolemia.  Sepsis also possible given
   fever, leukocytosis and infiltrate on CXR.  Adrenal insufficiency also
   possible given 2 months of prednisone use and patient had initially
   been given Hydrocortisone. Aggressive resuscitation with IVF, s/p 10L
   of IVF on initial presentation.  Hypotension now resolved.
   .
   # s/p recent NSTEMI - Denied CP in ED. EKGs with sinus tach in 140s,
   LBBB and non-specific changes from baseline. Cardiac enzymes negative.
   - continue Aspirin 325mg & Atorvastatin 40mg daily.
   - continue to monitor on telemetry, follow EKGs
   - cont metoprolol to 25mg [**Hospital1 7**]
   .
   # Hct drop: Baseline hct in high 30s, down to 25 after 10L of IVF.  Pt
   was clinically hypovolemic on admission with HR 140s.
   Transfused one unit PRBC [**2-16**].
   - guiaic negative
   - maintain active type & screen
   .
   # Depression
 Celexa 10mg PO daily started for passive SI
   .
   # UTI:  UA with no epis and >10 WBCs consistent with UTI, no prior
   urine cultures in system.
   - urine cxs negative
   .
   # FEN: cont TFs, nutrition following
   .
   # Prophylaxis: heparin sc tid, bowel regimen, PPI
   .
   # Access: Left PIV 18 gauge, left PICC
   # Code: FULL
   .
   # Disposition: pending family meeting and goals of care, trach vs.
   terminal extubation
   -          Social work consult placed [**2-16**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-17**] 04:41 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   20 Gauge - [**2158-2-15**] 01:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-19 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - brief episode of SVT, EKG with no significant changes
   - IP to trach/PEG Tuesday
   - spoke with case mgmt re: rehab
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-2-16**] 08:00 AM
   Ceftriaxone - [**2158-2-18**] 10:44 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-18**] 04:15 PM
   Heparin Sodium (Prophylaxis) - [**2158-2-19**] 12:00 AM
   Lorazepam (Ativan) - [**2158-2-19**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-19**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 73 (72 - 102) bpm
   BP: 137/51(72) {110/45(61) - 157/69(91)} mmHg
   RR: 18 (18 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,196 mL
                                                                    899 mL
   PO:
             TF:
                                                                    889 mL
                                                                    271 mL
   IVF:
                                                                    498 mL
                                                                    348 mL
   Blood products:
   Total out:
                                                                    993 mL
                                                                    255 mL
   Urine:
                                                                    993 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,203 mL
                                                                    644 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: ///35/
   Ve: 10.2 L/min
   Physical Examination
   General: Intubated, sedated, following commands
   HEENT: dry MM, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse rhonchi apprec at LLL base, not moving air well, no
   wheezes, prolonged exp phase
   CV: RRR, normal S1/S2, diff to apprec murmur due to lung sounds
   Abdomen:  soft, NTTP, non-distended, NABS, no rebound tenderness or
   guarding, no organomegaly
   Ext: thin skin with tears, 1+ pulses, 2+ pitting edema, cachectic [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 582**] / Radiology
   251 K/uL
   8.5 g/dL
   102 mg/dL
   0.8 mg/dL
   35 mEq/L
   4.1 mEq/L
   32 mg/dL
   108 mEq/L
   147 mEq/L
   26.2 %
   16.7 K/uL
        [image002.jpg]
                             [**2158-2-14**]  03:07 PM
                             [**2158-2-14**]  05:40 PM
                             [**2158-2-15**]  02:50 AM
                             [**2158-2-15**]  03:36 PM
                             [**2158-2-16**]  02:05 AM
                             [**2158-2-16**]  03:53 PM
                             [**2158-2-17**]  02:44 AM
                             [**2158-2-18**]  03:32 AM
                             [**2158-2-18**]  05:20 PM
                             [**2158-2-19**]  03:01 AM
   WBC
   20.3
   17.4
   19.4
   20.7
   16.7
   Hct
   24.8
   24.1
   30.9
   26.5
   29.8
   26.2
   Plt
   [**Telephone/Fax (3) 5768**]79
   251
   Cr
   1.1
   1.2
   1.1
   0.9
   0.9
   0.8
   TCO2
   28
   27
   31
   Glucose
   135
   107
   119
   102
   160
   102
   Other labs: PT / PTT / INR:13.5/31.7/1.2, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.6 %, Lymph:2.3 %, Mono:1.6 %, Eos:0.0 %, Lactic
   Acid:0.7 mmol/L, Albumin:1.9 g/dL, LDH:315 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   70 y/o F with severe COPD who presents with acute hypoxic respiratory
   failure, now intubated.
   .
   # Resp failure: Pt with severe underlying COPD who p/w fever, hypoxia,
   leukocytosis and infiltrates likely c/w acute PNA.  She received
   Ceftriaxone/Levo in ED though current sputum with pleomorphic gram neg
   coccobaccili likely c/w prior sputums of H.Flu.  Prior sputums have
   been colonized with serratia, aspergillus, MAC, pseudomonas.   Patient
   had a component of hypercarbic resp failure given MS changes & elevated
   serum bicarb. MDI while intubated. Patient was able to tolerate
   PS10/PEEP8 yesterday for approx 2 hrs [**2-16**]. Sputum showed moderate H.
   flu beta-lactamase negative, changed to ceftriaxone. Initally, vanc was
   d/c
ed and patient was kept on Zosyn until found to be flu
   beta-lactamase negative.
   - continue ceftriaxone for total of 14 days
   - plan for trach and PEG on Tuesday per IP
   - mouthcare, HOB elevated
   .
   # ARF: pre-renal from lasix administration -> holding lasix for now,
   increase free water flushes to 250cc q4h
   .
   # Hypotension: Resolved, this may have been due to meds given
   peri-intubation in setting of hypovolemia.  Sepsis also possible given
   fever, leukocytosis and infiltrate on CXR.  Adrenal insufficiency also
   possible given 2 months of prednisone use and patient had initially
   been given Hydrocortisone. Aggressive resuscitation with IVF, s/p 10L
   of IVF on initial presentation.
   - Hypotension now resolved
   .
   # s/p recent NSTEMI - Denied CP in ED. EKGs with sinus tach in 140s,
   LBBB and non-specific changes from baseline. Cardiac enzymes negative.
   - continue Aspirin 325mg & Atorvastatin 40mg daily.
   - continue to monitor on telemetry, follow EKGs
   - cont metoprolol to 25mg [**Hospital1 7**]
   .
   # Hct drop: Baseline hct in high 30s, down to 25 after 10L of IVF.  Pt
   was clinically hypovolemic on admission with HR 140s.
   Transfused one unit PRBC [**2-16**].
   - guiaic negative
   - maintain active type & screen
   .
   # Depression
 Celexa 10mg PO daily started for passive SI
   .
   # UTI:  UA with no epis and >10 WBCs consistent with UTI, no prior
   urine cultures in system.
   - urine cxs negative
   .
   # FEN: cont TFs, nutrition following, PEG to be placed Tuesday
   .
   # Prophylaxis: heparin sc tid, bowel regimen, PPI
   .
   # Access: Left PIV 18 gauge, left PICC
   # Code: FULL
   .
   # Disposition: trach and PEG Tuesday, case management aware of need for
   rehab planning
   -          Social work consult placed [**2-16**], PT/OT c/s placed [**2-19**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-18**] 07:28 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   20 Gauge - [**2158-2-18**] 11:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-20 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - changed free water boluses thru feeding tube to reduce hyperNa
   - d/c fent drip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2158-2-19**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-19**] 03:52 PM
   Lorazepam (Ativan) - [**2158-2-20**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-20**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-20**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.1
   HR: 79 (67 - 97) bpm
   BP: 138/52(73) {121/48(65) - 177/71(97)} mmHg
   RR: 18 (18 - 20) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,080 mL
                                                                    892 mL
   PO:
             TF:
                                                                    953 mL
                                                                    271 mL
   IVF:
                                                                    737 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                  1,382 mL
                                                                    330 mL
   Urine:
                                                                  1,132 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,698 mL
                                                                    562 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (455 - 500) mL
   PS : 12 cmH2O
   RR (Set): 18
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 31 cmH2O
   Plateau: 19 cmH2O
   SpO2: 92%
   ABG: ///34/
   Ve: 9.2 L/min
   Physical Examination
   General: Intubated, sedated, following commands
   HEENT: dry MM, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse rhonchi apprec at LLL base, not moving air well, no
   wheezes, prolonged exp phase
   CV: RRR, normal S1/S2, diff to apprec murmur due to lung sounds
   Abdomen:  soft, NTTP, non-distended, NABS, no rebound tenderness or
   guarding, no organomegaly
   Ext: thin skin with tears, 1+ pulses, 2+ pitting edema, cachectic [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 582**] / Radiology
   258 K/uL
   8.1 g/dL
   106 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.2 mEq/L
   29 mg/dL
   105 mEq/L
   143 mEq/L
   25.6 %
   17.7 K/uL
        [image002.jpg]
                             [**2158-2-14**]  05:40 PM
                             [**2158-2-15**]  02:50 AM
                             [**2158-2-15**]  03:36 PM
                             [**2158-2-16**]  02:05 AM
                             [**2158-2-16**]  03:53 PM
                             [**2158-2-17**]  02:44 AM
                             [**2158-2-18**]  03:32 AM
                             [**2158-2-18**]  05:20 PM
                             [**2158-2-19**]  03:01 AM
                             [**2158-2-20**]  03:13 AM
   WBC
   20.3
   17.4
   19.4
   20.7
   16.7
   17.7
   Hct
   24.8
   24.1
   30.9
   26.5
   29.8
   26.2
   25.6
   Plt
   [**Telephone/Fax (3) 5768**]79
   251
   258
   Cr
   1.1
   1.2
   1.1
   0.9
   0.9
   0.8
   0.7
   TCO2
   27
   31
   Glucose
   135
   107
   119
   102
   160
   102
   106
   Other labs: PT / PTT / INR:13.2/41.4/1.1, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.6 %, Lymph:2.3 %, Mono:1.6 %, Eos:0.0 %, Lactic
   Acid:0.7 mmol/L, Albumin:1.9 g/dL, LDH:315 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   70 y/o F with severe COPD who presents with acute hypoxic respiratory
   failure, now intubated.
   .
   # Resp failure: Pt with severe underlying COPD who p/w fever, hypoxia,
   leukocytosis and infiltrates likely c/w acute PNA.  She received
   Ceftriaxone/Levo in ED though current sputum with pleomorphic gram neg
   coccobaccili likely c/w prior sputums of H.Flu.  Prior sputums have
   been colonized with serratia, aspergillus, MAC, pseudomonas.   Patient
   had a component of hypercarbic resp failure given MS changes & elevated
   serum bicarb. MDI while intubated. Patient was able to tolerate
   PS10/PEEP8 yesterday for approx 2 hrs [**2-16**]. Sputum showed moderate H.
   flu beta-lactamase negative, changed to ceftriaxone. Initally, vanc was
   d/c
ed and patient was kept on Zosyn until found to be flu
   beta-lactamase negative.
   - will check VBG before and after PS trials
   - continue ceftriaxone for total of 14 days
   - plan for trach and PEG on Tuesday per IP
   - begin to taper prednisone, 40mg daily today
   - mouthcare, HOB elevated
   .
   # ARF: pre-renal from lasix administration -> holding lasix for now,
   free water flushes at 250cc q4h (hyper NA improved)
   .
   # Hypotension: Resolved, this may have been due to meds given
   peri-intubation in setting of hypovolemia.  Sepsis also possible given
   fever, leukocytosis and infiltrate on CXR.  Adrenal insufficiency also
   possible given 2 months of prednisone use and patient had initially
   been given Hydrocortisone. Aggressive resuscitation with IVF, s/p 10L
   of IVF on initial presentation.
   - Hypotension now resolved
   .
   # s/p recent NSTEMI - Denied CP in ED. EKGs with sinus tach in 140s,
   LBBB and non-specific changes from baseline. Cardiac enzymes negative.
   - continue Aspirin 325mg & Atorvastatin 40mg daily.
   - continue to monitor on telemetry, follow EKGs
   - cont metoprolol to 25mg [**Hospital1 7**]
   .
   # Hct drop: Baseline hct in high 30s, down to 25 after 10L of IVF.  Pt
   was clinically hypovolemic on admission with HR 140s.
   Transfused one unit PRBC [**2-16**].
   - guiaic negative
   - maintain active type & screen
   .
   # Depression
 Celexa 10mg PO daily started for passive SI
   .
   # UTI:  UA with no epis and >10 WBCs consistent with UTI, no prior
   urine cultures in system.
   - urine cxs negative
   .
   # FEN: cont TFs, nutrition following, PEG to be placed Tuesday
   .
   # Prophylaxis: heparin sc TID will change to [**Hospital1 7**] 2.2 PTT 41 today,
   bowel regimen, PPI
   .
   # Access: Left PIV 18 gauge, left PICC
   # Code: FULL
   .
   # Disposition: trach and PEG Tuesday, case management aware of need for
   rehab planning
   -          Social work consult placed [**2-16**], PT/OT c/s placed [**2-19**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-19**] 08:38 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   20 Gauge - [**2158-2-18**] 11:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-21 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - had PS trial and did well - on PS [**12-12**] with improved oxygenation on
   this setting - ABG 7.41/54/172
   - plan for trach and peg tomorrow
   - trouble sleeping, treated with ambien
   - one guaiac positive brown stool, Hct stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2158-2-19**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-20**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2158-2-20**] 08:00 PM
   Lorazepam (Ativan) - [**2158-2-21**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-21**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 79 (70 - 86) bpm
   BP: 118/44(61) {117/44(61) - 154/68(88)} mmHg
   RR: 23 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  2,490 mL
                                                                     15 mL
   PO:
                  TF:
                                                                    865 mL
   IVF:
                                                                    210 mL
   Blood products:
   Total out:
                                                                  1,430 mL
                                                                    385 mL
   Urine:
                                                                  1,410 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,060 mL
                                                                   -370 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 525 (421 - 525) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 24 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 96%
   ABG: ///35/
   Ve: 11.1 L/min
   Physical Examination
   General: Intubated, sedated, following commands
   HEENT: dry MM, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse rhonchi apprec at LLL base, not moving air well, no
   wheezes, prolonged exp phase
   CV: RRR, normal S1/S2, diff to apprec murmur due to lung sounds
   Abdomen:  soft, NTTP, non-distended, NABS, no rebound tenderness or
   guarding, no organomegaly
   Ext: thin skin with tears, 1+ pulses, 2+ pitting edema, cachectic [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 582**] / Radiology
   284 K/uL
   8.4 g/dL
   76 mg/dL
   0.7 mg/dL
   35 mEq/L
   5.3 mEq/L
   26 mg/dL
   102 mEq/L
   142 mEq/L
   25.8 %
   17.5 K/uL
        [image002.jpg]
                             [**2158-2-15**]  02:50 AM
                             [**2158-2-15**]  03:36 PM
                             [**2158-2-16**]  02:05 AM
                             [**2158-2-16**]  03:53 PM
                             [**2158-2-17**]  02:44 AM
                             [**2158-2-18**]  03:32 AM
                             [**2158-2-18**]  05:20 PM
                             [**2158-2-19**]  03:01 AM
                             [**2158-2-20**]  03:13 AM
                             [**2158-2-21**]  01:55 AM
   WBC
   20.3
   17.4
   19.4
   20.7
   16.7
   17.7
   17.5
   Hct
   24.8
   24.1
   30.9
   26.5
   29.8
   26.2
   25.6
   25.8
   Plt
   [**Telephone/Fax (3) 5768**]79
   251
   258
   284
   Cr
   1.1
   1.2
   1.1
   0.9
   0.9
   0.8
   0.7
   0.7
   TCO2
   31
   Glucose
   135
   107
   119
   102
   160
   102
   106
   76
   Other labs: PT / PTT / INR:13.1/38.5/1.1, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.6 %, Lymph:2.3 %, Mono:1.6 %, Eos:0.0 %, Lactic
   Acid:0.7 mmol/L, Albumin:1.9 g/dL, LDH:315 IU/L, Ca++:6.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   70 y/o F with severe COPD who presents with acute hypoxic respiratory
   failure, now intubated.
   .
   # Resp failure: Pt with severe underlying COPD who p/w fever, hypoxia,
   leukocytosis and infiltrates likely c/w acute PNA.  She received
   Ceftriaxone/Levo in ED though current sputum with pleomorphic gram neg
   coccobaccili likely c/w prior sputums of H.Flu.  Prior sputums have
   been colonized with serratia, aspergillus, MAC, pseudomonas.   Patient
   had a component of hypercarbic resp failure given MS changes & elevated
   serum bicarb. Initally, vanc was d/c
ed and patient was kept on Zosyn
   until found to be flu beta-lactamase negative. Sputum showed moderate
   H. flu beta-lactamase negative, changed to ceftriaxone. Patient was
   able to tolerate PS12/PEEP8 [**2-20**] for approx 2 hrs [**2-16**]
   - will check VBG before and after PS trials
   - continue ceftriaxone for total of 14 days (d/c calcium SS given
   potential interaction)
   - plan for trach and PEG today
   - continue prednisone 40mg daily
   - mouthcare, HOB elevated
   .
   # ARF: pre-renal from lasix administration -> holding lasix for now,
   free water flushes at 250cc q4h (hyper NA improved)
   .
   # Hypotension: Resolved, this may have been due to meds given
   peri-intubation in setting of hypovolemia.  Sepsis also possible given
   fever, leukocytosis and infiltrate on CXR.  Adrenal insufficiency also
   possible given 2 months of prednisone use and patient had initially
   been given Hydrocortisone. Aggressive resuscitation with IVF, s/p 10L
   of IVF on initial presentation.
   - Hypotension now resolved
   .
   # s/p recent NSTEMI - Denied CP in ED. EKGs with sinus tach in 140s,
   LBBB and non-specific changes from baseline. Cardiac enzymes negative.
   - continue Aspirin 325mg & Atorvastatin 40mg daily.
   - continue to monitor on telemetry, follow EKGs
   - cont metoprolol to 25mg [**Hospital1 7**]
   .
   # Hct drop: Baseline hct in high 30s, down to 25 after 10L of IVF.  Pt
   was clinically hypovolemic on admission with HR 140s.
   Transfused one unit PRBC [**2-16**].
   - guiaic negative
   - maintain active type & screen
   .
   # Depression
 Celexa 10mg PO daily started for passive SI
   .
   # UTI:  UA with no epis and >10 WBCs consistent with UTI, no prior
   urine cultures in system.
   - urine cxs negative
   .
   # FEN: cont TFs, nutrition following, PEG to be placed Tuesday
   .
   # Prophylaxis: heparin sc TID will change to [**Hospital1 7**] 2.2 PTT 41 today,
   bowel regimen, PPI
   .
   # Access: Left PIV 18 gauge, left PICC
   # Code: FULL
   .
   # Disposition: trach and PEG now, case management aware of need for
   rehab planning
   -          Social work consult placed [**2-16**], PT/OT c/s placed [**2-19**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   20 Gauge - [**2158-2-18**] 11:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-22 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-21**] Events:
   - Trach/PEG re-scheduled for [**2-22**]
   - taper prednisone 60, 40, 30, 20 in 4 day intervals, so that within 2
   wks or so she is down to 10mg (per Dr. [**Last Name (STitle) 1621**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2158-2-19**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-21**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2158-2-21**] 09:34 PM
   Lorazepam (Ativan) - [**2158-2-22**] 03:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-22**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 92 (73 - 99) bpm
   BP: 153/58(81) {121/42(62) - 161/78(95)} mmHg
   RR: 24 (16 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    435 mL
                                                                    442 mL
   PO:
             TF:
   IVF:
                                                                    270 mL
                                                                    442 mL
   Blood products:
   Total out:
                                                                  1,295 mL
                                                                    360 mL
   Urine:
                                                                  1,295 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -860 mL
                                                                     82 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 505 (347 - 529) mL
   PS : 12 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: ///37/
   Ve: 9.7 L/min
   Physical Examination
   General: Intubated, sedated, following commands
   HEENT: dry MM, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse rhonchi apprec at LLL base, not moving air well, no
   wheezes, prolonged exp phase
   CV: RRR, normal S1/S2, diff to apprec murmur due to lung sounds
   Abdomen:  soft, NTTP, non-distended, NABS, no rebound tenderness or
   guarding, no organomegaly
   Ext: thin skin with tears, 1+ pulses, 2+ pitting edema, cachectic [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 582**] / Radiology
   310 K/uL
   8.1 g/dL
   72 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.7 mEq/L
   21 mg/dL
   100 mEq/L
   140 mEq/L
   25.0 %
   19.5 K/uL
        [image002.jpg]
                             [**2158-2-15**]  03:36 PM
                             [**2158-2-16**]  02:05 AM
                             [**2158-2-16**]  03:53 PM
                             [**2158-2-17**]  02:44 AM
                             [**2158-2-18**]  03:32 AM
                             [**2158-2-18**]  05:20 PM
                             [**2158-2-19**]  03:01 AM
                             [**2158-2-20**]  03:13 AM
                             [**2158-2-21**]  01:55 AM
                             [**2158-2-22**]  03:55 AM
   WBC
   17.4
   19.4
   20.7
   16.7
   17.7
   17.5
   19.5
   Hct
   24.1
   30.9
   26.5
   29.8
   26.2
   25.6
   25.8
   25.0
   Plt
   [**Telephone/Fax (3) 5840**]
   310
   Cr
   1.2
   1.1
   0.9
   0.9
   0.8
   0.7
   0.7
   0.6
   TCO2
   31
   Glucose
   107
   119
   102
   160
   102
   106
   76
   72
   Other labs: PT / PTT / INR:13.2/38.8/1.1, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.6 %, Lymph:2.3 %, Mono:1.6 %, Eos:0.0 %, Lactic
   Acid:0.7 mmol/L, Albumin:1.9 g/dL, LDH:315 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   70 y/o F with severe COPD who presents with acute hypoxic respiratory
   failure, now intubated.
   .
   # Resp failure: Pt with severe underlying COPD who p/w fever, hypoxia,
   leukocytosis and infiltrates likely c/w acute PNA.  She received
   Ceftriaxone/Levo in ED though current sputum with pleomorphic gram neg
   coccobaccili likely c/w prior sputums of H.Flu.  Prior sputums have
   been colonized with serratia, aspergillus, MAC, pseudomonas.   Patient
   had a component of hypercarbic resp failure given MS changes & elevated
   serum bicarb. Initally, vanc was d/c
ed and patient was kept on Zosyn
   until found to be flu beta-lactamase negative. Sputum showed moderate
   H. flu beta-lactamase negative, changed to ceftriaxone.
   - did well on pressure support trials, RISBI in 50s today, doing a SBT
   trial to see if extubation prior to ? trach should be tried, per resp
   therapy, may have a hard time with secretions; likely will get trach
   and peg today
   - continue ceftriaxone for total of 14 days, day [**6-18**] today
   - plan for trach and PEG today if fails SBT
   - will quickly taper prednisone
 40 mg today, 30 tomorrow, 20 the
   next, then 10 daily for basal dosing
   - mouthcare, HOB elevated
   .
   # ARF: pre-renal from lasix administration -> holding lasix for now,
   free water flushes at 250cc q4h
   - normal Na
   - ARF resolved
   .
   # Hypotension: Resolved, this may have been due to meds given
   peri-intubation in setting of hypovolemia.  Sepsis also possible given
   fever, leukocytosis and infiltrate on CXR.  Adrenal insufficiency also
   possible given 2 months of prednisone use and patient had initially
   been given Hydrocortisone. Aggressive resuscitation with IVF, s/p 10L
   of IVF on initial presentation.
   - Hypotension now resolved
   .
   # s/p recent NSTEMI - Denied CP in ED. EKGs with sinus tach in 140s,
   LBBB and non-specific changes from baseline. Cardiac enzymes negative.
   - continue Aspirin 325mg & Atorvastatin 40mg daily.
   - continue to monitor on telemetry, follow EKGs
   - cont metoprolol to 25mg [**Hospital1 7**]; will consider changing as is possible to
   cause bronchospasm, could try diltiazem
   .
   # Hct drop: Baseline hct in high 30s, down to 25 after 10L of IVF.  Pt
   was clinically hypovolemic on admission with HR 140s.
   Transfused one unit PRBC [**2-16**].
   - guiac positive
   - steady drop likely from phlebotomy, will transfuse for Hct <24
   - maintain active type & screen
   .
   # Depression
 Celexa 10mg PO daily started for passive SI
   .
   # UTI:  UA with no epis and >10 WBCs consistent with UTI, no prior
   urine cultures in system.
   -          urine cxs negative, no tx needed
   .
   # Osteopenia
 was on fosamax as outpatient, in setting of steroid use
   will start ca/vit D
   - ca and vit d supplementation for now
   - consider [**Location (un) **] fosamax when respiratory status starts to stabilize
   .
   # FEN: cont TFs, nutrition following, PEG to be placed Tuesday
   .
   # Prophylaxis: heparin sc TID will change to [**Hospital1 7**] 2.2 PTT 41 today,
   bowel regimen, PPI
   .
   # Access: Left PIV 18 gauge, left PICC
   .
   # Code: FULL
   .
   # Communication
 with patient and niece
   .
   # Disposition: trach and PEG now, case management aware of need for
   rehab planning
   -          Social work consult placed [**2-16**], PT/OT c/s placed [**2-19**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   20 Gauge - [**2158-2-18**] 11:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-23 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2158-2-22**] 02:33 PM
   [**2-22**] events:
   - patient was extubated in the afternoon and metoprolol was dc'ed
   around midnight, patient became more tachypenic, RR 25-35, accessory
   muscle use, retaining CO2 despite CPAP, multiple suctionings and nebs,
   intubated at 3am by anesthesia. given bolus fen/versed sedation.
   per Dr. [**Last Name (STitle) 5859**] recs, significant steroid taper (will give
   solumedrol if not taking PO meds)
   - for afib not not responsive to dilt, gave labetalol bolus and started
   on labetalol drip, switched to esmolol drip because relative
   hypotension
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2158-2-22**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-22**] 08:00 PM
   Diltiazem - [**2158-2-23**] 01:00 AM
   Labetalol - [**2158-2-23**] 01:45 AM
   Lorazepam (Ativan) - [**2158-2-23**] 02:00 AM
   Fentanyl - [**2158-2-23**] 03:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-23**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.1
   HR: 95 (80 - 124) bpm
   BP: 97/42(54) {82/39(48) - 190/100(114)} mmHg
   RR: 19 (19 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,852 mL
                                                                  1,035 mL
   PO:
             TF:
   IVF:
                                                                  1,792 mL
                                                                  1,035 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    410 mL
   Urine:
                                                                  2,340 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -488 mL
                                                                    625 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 373
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 33 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 7.4 L/min
   Physical Examination
   General: Intubated, sedated, following commands
   HEENT: dry MM, oropharynx clear
   Neck: supple, no LAD
   Lungs: diffuse rhonchi apprec at LLL base, not moving air well, no
   wheezes, prolonged exp phase
   CV: RRR, normal S1/S2, diff to apprec murmur due to lung sounds
   Abdomen:  soft, NTTP, non-distended, NABS, no rebound tenderness or
   guarding, no organomegaly
   Ext: thin skin with tears, 1+ pulses, 2+ pitting edema, cachectic [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 582**] / Radiology
   349 K/uL
   9.2 g/dL
   135 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.7 mEq/L
   15 mg/dL
   98 mEq/L
   138 mEq/L
   28.0 %
   41.1 K/uL
        [image002.jpg]
                             [**2158-2-16**]  02:05 AM
                             [**2158-2-16**]  03:53 PM
                             [**2158-2-17**]  02:44 AM
                             [**2158-2-18**]  03:32 AM
                             [**2158-2-18**]  05:20 PM
                             [**2158-2-19**]  03:01 AM
                             [**2158-2-20**]  03:13 AM
                             [**2158-2-21**]  01:55 AM
                             [**2158-2-22**]  03:55 AM
                             [**2158-2-23**]  03:16 AM
   WBC
   17.4
   19.4
   20.7
   16.7
   17.7
   17.5
   19.5
   41.1
   Hct
   24.1
   30.9
   26.5
   29.8
   26.2
   25.6
   25.8
   25.0
   28.0
   Plt
   [**Telephone/Fax (2) 5840**]
   310
   349
   Cr
   1.2
   1.1
   0.9
   0.9
   0.8
   0.7
   0.7
   0.6
   0.7
   Glucose
   107
   119
   102
   160
   102
   106
   76
   72
   135
   Other labs: PT / PTT / INR:13.8/26.3/1.2, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.6 %, Lymph:2.3 %, Mono:1.6 %, Eos:0.0 %, Lactic
   Acid:0.7 mmol/L, Albumin:1.9 g/dL, LDH:315 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   70 y/o F with severe COPD who presents with acute hypoxic respiratory
   failure, now intubated.
   .
   # Resp failure: Pt with severe underlying COPD who p/w fever, hypoxia,
   leukocytosis and infiltrates likely c/w acute PNA.  She received
   Ceftriaxone/Levo in ED though current sputum with pleomorphic gram neg
   coccobaccili likely c/w prior sputums of H.Flu.  Prior sputums have
   been colonized with serratia, aspergillus, MAC, pseudomonas.   Patient
   had a component of hypercarbic resp failure given MS changes & elevated
   serum bicarb. Patient was started on vanc/zosyn. Vanc was d/c
ed once
   it was growth was gram negative. Zosyn was changed to ceftriaxone when
   speciated to H. flu beta-lactamase negative. Patient completed [**11-18**]
   day course of HAP and steroid taper when patient passed SBT and was
   extubated. Patient remained extubated for 12 hours and developed sinus
   tachycardia (in the setting of beta blocker withdrawl), tachypnea,
   accessory muscle use and desaturation to low 90s. Patient was given
   trial of nebs and CPAP, patient continued to retain CO2 and patient was
   intubated on [**2-23**]. Patient has very poor respiratory reserve and will
   require long-term trach.
   - patient to get trach and peg [**2-23**]
   - stopped steroid taper and kept on prednisone 40mg PO daily for now
   - mouthcare, HOB elevated
   # Leukocytosis / fever
 developed 4 hours after reintubation. Patient
   was intubated uneventfully and patient was NPO 48 hours prior to
   procedure. Differential includes VAP vs. aspiration PNA vs aspiration
   pneumonitis. Leukocytosis also in the setting diarrhea and prolonged
   hospitalization could be consistent with c diff.
   -          sent BC, UC, cdiff toxin, mini-BAL, and endobronchial
   aspirate cx
   -          treating c diff with IV Flagyl and PO vanc , placed on
   contact precautions (started [**2-23**])
   -          treating VAP with IV vanc, meropenem/doripenem, and cipro
   (started [**2-23**], cipro to dbl cover pseudomonas), will stop VAP abx on
   [**2-27**] if cultures negative
   # tachycardia
 similar to previous, could be from infection or
   hypovolemia. Could also be MAT given resp problems. [**Name (NI) 3107**] [**Name2 (NI) 5863**]
   agents.
   -          check urine lytes give NS 500cc bolus and recheck lytes
   -
   # Resolved ARF: pre-renal from lasix administration
   .
   # s/p recent NSTEMI - Denied CP in ED. EKGs with sinus tach in 140s,
   LBBB and non-specific changes from baseline. Cardiac enzymes negative.
   - continue Aspirin 325mg & Atorvastatin 40mg daily.
   - continue to monitor on telemetry, follow EKGs
   - cont metoprolol to 25mg [**Hospital1 7**]; will consider changing as is possible to
   cause bronchospasm, could try diltiazem
   .
   # Hct drop: Baseline hct in high 30s, down to 25 after 10L of IVF.  Pt
   was clinically hypovolemic on admission with HR 140s.
   Transfused one unit PRBC [**2-16**].
   .
   # Depression
 Celexa 10mg PO daily started for passive SI
   .
   # Osteopenia
 was on fosamax as outpatient, in setting of steroid use
   will start ca/vit D
   - ca and vit d supplementation for now
   - consider [**Location (un) **] fosamax when respiratory status starts to stabilize
   .
   # FEN: cont TFs, nutrition following, PEG to be placed Tuesday
   .
   # Prophylaxis: heparin sc TID will change to [**Hospital1 7**] 2.2 PTT 41 today,
   bowel regimen, PPI
   .
   # Access: Left PIV 18 gauge, left PICC
   .
   # Code: FULL
   .
   # Communication
 with patient and niece
   .
   # Disposition: trach and PEG now, case management aware of need for
   rehab planning
   -          Social work consult placed [**2-16**], PT/OT c/s placed [**2-19**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-23 09:15:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated after successful SBT.
   Tired and reintubated early this morning.
   HR/BP control with beta blockers/labetalol
   Spiked fever this morning, with substantial leucocytosis
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2158-2-22**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-22**] 08:00 PM
   Labetalol - [**2158-2-23**] 01:45 AM
   Lorazepam (Ativan) - [**2158-2-23**] 02:00 AM
   Fentanyl - [**2158-2-23**] 03:35 AM
   Diltiazem - [**2158-2-23**] 06:45 AM
   Other medications:
   colace, PPI, ASA, statin, xoponex, CHG, nebs, SQI, ceftriaxone 1g IV
   q24, duragesic, SQH, vit D, calcium oral, pred @ 30, dilt 10 mg IV q 6
   hours
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-23**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.9
C (98.4
   HR: 95 (80 - 124) bpm
   BP: 97/42(54) {82/39(48) - 190/100(114)} mmHg
   RR: 19 (19 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,852 mL
                                                                  1,054 mL
   PO:
             TF:
   IVF:
                                                                  1,792 mL
                                                                  1,054 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    410 mL
   Urine:
                                                                  2,340 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -488 mL
                                                                    644 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 373
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   349 K/uL
   135 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.7 mEq/L
   15 mg/dL
   98 mEq/L
   138 mEq/L
   28.0 %
   41.1 K/uL
        [image002.jpg]
                             [**2158-2-16**]  02:05 AM
                             [**2158-2-16**]  03:53 PM
                             [**2158-2-17**]  02:44 AM
                             [**2158-2-18**]  03:32 AM
                             [**2158-2-18**]  05:20 PM
                             [**2158-2-19**]  03:01 AM
                             [**2158-2-20**]  03:13 AM
                             [**2158-2-21**]  01:55 AM
                             [**2158-2-22**]  03:55 AM
                             [**2158-2-23**]  03:16 AM
   WBC
   17.4
   19.4
   20.7
   16.7
   17.7
   17.5
   19.5
   41.1
   Hct
   24.1
   30.9
   26.5
   29.8
   26.2
   25.6
   25.8
   25.0
   28.0
   Plt
   [**Telephone/Fax (3) 5840**]
   310
   349
   Cr
   1.2
   1.1
   0.9
   0.9
   0.8
   0.7
   0.7
   0.6
   0.7
   Glucose
   107
   119
   102
   160
   102
   106
   76
   72
   135
   Other labs: PT / PTT / INR:13.8/26.3/1.2, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.6 %, Lymph:2.3 %, Mono:1.6 %, Eos:0.0 %, Lactic
   Acid:0.7 mmol/L, Albumin:1.9 g/dL, LDH:315 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR with no obvious new infiltrate.
   Assessment and Plan
   70-year-old woman with severe COPD now with acute respiratory failure
   in the setting of Haemophilus influenza infection.
   Respiratory failure
          Trial of extubation after successful SBT but tired and
   reintubated
          Seems reasonable to pursue tracheostomy; will hold off until
   fever/leucocytosis fully evaluated
          Bronchodilators
          Continue present steroids for now
 assess resistance on
   ventilator and consider increase of steroids
   Fever/leucocytosis
          Meets criteria for sepsis but not severe sepsis
          Etiology is not clear: will evaluate for VAP, BSI (doubt),
   and C diff (probable)
          Treat empirically for C diff
          Treat empirically for HAP
   Tachycardia
          Check 12 lead to ensure sinus mechanism
          Trial of volume challenge if persists
          Hold antihypertensives given borderline BP, assuming sinus
   mechanism
   Other issues per ICU team note
   ICU Care
   Nutrition: resume tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2158-02-24 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started IV flagyl/PO vanco for possible c.diff; IV vanco, doripenem,
   cipro for possible HAP
   - stop VAP ABX on Monday if cxs negative****
   - OG pulled out; placed new NG tube
   - had chest/epigastic pain, EKG unchanged; responded to zofran and
   started feeling better
   - moderately hypotensive to SBPs in 80s most of afternoon; would
   transiently respond to 500 cc boluses
   - BPs stabalized overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2158-2-22**] 10:00 PM
   Ciprofloxacin - [**2158-2-23**] 09:00 PM
   Vancomycin - [**2158-2-24**] 12:00 AM
   Metronidazole - [**2158-2-24**] 02:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-23**] 08:00 PM
   Lorazepam (Ativan) - [**2158-2-24**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-24**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.9
C (98.4
   HR: 87 (71 - 112) bpm
   BP: 108/51(65) {76/34(44) - 159/61(83)} mmHg
   RR: 21 (16 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  6,218 mL
                                                                    359 mL
   PO:
             TF:
                                                                    160 mL
   IVF:
                                                                  6,058 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                    360 mL
   Urine:
                                                                  1,060 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,158 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 19 cmH2O
   Plateau: 21 cmH2O
   Compliance: 49.5 cmH2O/mL
   SpO2: 96%
   ABG: ///30/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   314 K/uL
   7.3 g/dL
   79 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.5 mEq/L
   13 mg/dL
   102 mEq/L
   139 mEq/L
   22.4 %
   31.2 K/uL
        [image002.jpg]
                             [**2158-2-16**]  03:53 PM
                             [**2158-2-17**]  02:44 AM
                             [**2158-2-18**]  03:32 AM
                             [**2158-2-18**]  05:20 PM
                             [**2158-2-19**]  03:01 AM
                             [**2158-2-20**]  03:13 AM
                             [**2158-2-21**]  01:55 AM
                             [**2158-2-22**]  03:55 AM
                             [**2158-2-23**]  03:16 AM
                             [**2158-2-24**]  03:22 AM
   WBC
   19.4
   20.7
   16.7
   17.7
   17.5
   19.5
   41.1
   31.2
   Hct
   30.9
   26.5
   29.8
   26.2
   25.6
   25.8
   25.0
   28.0
   22.4
   Plt
   255
   279
   251
   258
   [**Telephone/Fax (2) 5876**]14
   Cr
   1.1
   0.9
   0.9
   0.8
   0.7
   0.7
   0.6
   0.7
   0.7
   Glucose
   119
   102
   160
   102
   106
   76
   72
   135
   79
   Other labs: PT / PTT / INR:15.9/33.9/1.4, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.8 %, Lymph:1.6 %, Mono:2.3 %, Eos:0.3 %, Lactic
   Acid:0.7 mmol/L, Albumin:1.9 g/dL, LDH:315 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   70 y/o F with severe COPD who presents with acute hypoxic respiratory
   failure, now intubated.
   .
   # Resp failure: Pt with severe underlying COPD who p/w fever, hypoxia,
   leukocytosis and infiltrates likely c/w acute PNA.  She received
   Ceftriaxone/Levo in ED though current sputum with pleomorphic gram neg
   coccobaccili likely c/w prior sputums of H.Flu.  Prior sputums have
   been colonized with serratia, aspergillus, MAC, pseudomonas.   Patient
   had a component of hypercarbic resp failure given MS changes & elevated
   serum bicarb. Patient was started on vanc/zosyn. Vanc was d/c
ed once
   it was growth was gram negative. Zosyn was changed to ceftriaxone when
   speciated to H. flu beta-lactamase negative. Patient completed [**11-18**]
   day course of HAP and steroid taper when patient passed SBT and was
   extubated. Patient remained extubated for 12 hours and developed sinus
   tachycardia (in the setting of beta blocker withdrawl), tachypnea,
   accessory muscle use and desaturation to low 90s. Patient was given
   trial of nebs and CPAP, patient continued to retain CO2 and patient was
   intubated on [**2-23**]. Patient has very poor respiratory reserve and will
   require long-term trach.
   - patient to get Trach/PEG on Monday
   - continue prednisone 60mg PO and will taper to 40mg in tomorrow
   - mouthcare, HOB elevated
   .
   # Leukocytosis / Fever
 developed 4 hours after reintubation. Patient
   was intubated uneventfully and patient was NPO 48 hours prior to
   procedure. Differential includes VAP vs. aspiration PNA vs aspiration
   pneumonitis. Leukocytosis also in the setting diarrhea and prolonged
   hospitalization could be consistent with c diff.
   -          f/u BC, UC, cdiff toxin, mini-BAL, and endobronchial
   aspirate cx (neg gram stain on mini BAL)
   -          treating c diff with IV Flagyl and PO vanc , placed on
   contact precautions (started [**2-23**])
   -          treating VAP with IV vanc, doripenem and cipro (started
   [**2-23**], cipro to dbl cover pseudomonas), will stop VAP abx on [**2-27**] if
   cultures negative
   .
   # Tachycardia
 similar to previous, could be from infection or
   hypovolemia. Could also be MAT given resp problems. [**Name (NI) 3107**] [**Name2 (NI) 5863**]
   agents.  Responded to fluid boluses [**2-23**].
   -          Sinus tach on EKG [**2-23**]
   -          Fluid challenge PRN
   -          Hold anti-HTN meds
   .
   # Resolved ARF: Pre-renal from hypovolemia/sepsis, now improved.
   .
   # s/p recent NSTEMI - Denied CP in ED. EKGs with sinus tach in 140s,
   LBBB and non-specific changes from baseline. Cardiac enzymes negative.
   - continue Aspirin 325mg & Atorvastatin 40mg daily.
   - continue to monitor on telemetry, follow EKGs
   - cont metoprolol to 25mg [**Hospital1 7**]; will consider changing as is possible to
   cause bronchospasm, could try diltiazem
   .
   # Hct drop: Baseline hct in high 30s, down to 25 after 10L of IVF.  Pt
   was clinically hypovolemic on admission with HR 140s.
   Transfused one unit PRBC [**2-16**].
   - will transfuse 1U PRBC today
   .
   # Depression
 Celexa 10mg PO daily started for passive SI
   .
   # Osteopenia
 was on fosamax as outpatient, in setting of steroid use
   will start Ca/Vit D
   - Ca and Vit D supplementation for now
   - re-start fosamax when respiratory status starts to stabilize
   .
   # FEN: cont TFs, nutrition following, awaiting PEG
   .
   # Prophylaxis: heparin sc BID, PPI
   .
   # Access: Left PIV 18 gauge, left PICC
   .
   # Code: FULL
   .
   # Communication
 with patient and niece
   .
   # Disposition: case management aware of need for rehab planning
   -          Social work consult placed [**2-16**], PT/OT c/s placed [**2-19**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   20 Gauge - [**2158-2-23**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-25 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-24**] Events:
   - plan for Trach/PEG on Monday
   - received 1U PRBC
   - tolerated PSV 8/8 for majority of day
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2158-2-22**] 10:00 PM
   Ciprofloxacin - [**2158-2-24**] 10:00 PM
   Metronidazole - [**2158-2-25**] 01:49 AM
   Vancomycin - [**2158-2-25**] 05:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-24**] 08:21 AM
   Pantoprazole (Protonix) - [**2158-2-24**] 04:00 PM
   Lorazepam (Ativan) - [**2158-2-24**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-25**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 88 (76 - 102) bpm
   BP: 125/57(74) {93/40(53) - 150/70(84)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,615 mL
                                                                  1,140 mL
   PO:
             TF:
                                                                    180 mL
                                                                    288 mL
   IVF:
                                                                  1,750 mL
                                                                    322 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,580 mL
                                                                    295 mL
   Urine:
                                                                  1,530 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,035 mL
                                                                    845 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 437 (430 - 437) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 17 cmH2O
   SpO2: 93%
   ABG: ///31/
   Ve: 10.4 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+, significant BLE edema with skin
   weeping
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   301 K/uL
   8.4 g/dL
   70 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.6 mEq/L
   13 mg/dL
   102 mEq/L
   135 mEq/L
   25.6 %
   25.0 K/uL
        [image002.jpg] UA neg, cdiff negx1, sputum GNR, foley - yeast
                             [**2158-2-18**]  03:32 AM
                             [**2158-2-18**]  05:20 PM
                             [**2158-2-19**]  03:01 AM
                             [**2158-2-20**]  03:13 AM
                             [**2158-2-21**]  01:55 AM
                             [**2158-2-22**]  03:55 AM
                             [**2158-2-23**]  03:16 AM
                             [**2158-2-24**]  03:22 AM
                             [**2158-2-24**]  08:21 PM
                             [**2158-2-25**]  03:10 AM
   WBC
   20.7
   16.7
   17.7
   17.5
   19.5
   41.1
   31.2
   25.0
   Hct
   29.8
   26.2
   25.6
   25.8
   25.0
   28.0
   22.4
   30.2
   25.6
   Plt
   279
   251
   258
   [**Telephone/Fax (2) 5886**]01
   Cr
   0.9
   0.9
   0.8
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   Glucose
   102
   160
   102
   106
   76
   72
   135
   79
   70
   Other labs: PT / PTT / INR:14.4/32.5/1.3, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.8 %, Lymph:1.6 %, Mono:2.3 %, Eos:0.3 %, Lactic
   Acid:0.7 mmol/L, Albumin:1.9 g/dL, LDH:315 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   70 y/o F with severe COPD who presents with acute hypoxic respiratory
   failure, now intubated.
   .
   # Resp failure: Pt with severe underlying COPD who p/w fever, hypoxia,
   leukocytosis and infiltrates likely c/w acute PNA.  She received
   Ceftriaxone/Levo in ED though current sputum with pleomorphic gram neg
   coccobaccili likely c/w prior sputums of H.Flu.  Prior sputums have
   been colonized with serratia, aspergillus, MAC, pseudomonas.   Patient
   had a component of hypercarbic resp failure given MS changes & elevated
   serum bicarb. Patient was started on vanc/zosyn. Vanc was d/c
ed once
   it was growth was gram negative. Zosyn was changed to ceftriaxone when
   speciated to H. flu beta-lactamase negative. Patient completed [**11-18**]
   day course of HAP and steroid taper when patient passed SBT and was
   extubated. Patient remained extubated for 12 hours and developed sinus
   tachycardia (in the setting of beta blocker withdrawl), tachypnea,
   accessory muscle use and desaturation to low 90s. Patient was given
   trial of nebs and CPAP, patient continued to retain CO2 and patient was
   intubated on [**2-23**]. Patient has very poor respiratory reserve and will
   require long-term trach.
   - patient to get Trach/PEG on Monday
   - continue prednisone 60mg PO and will taper to 40mg in tomorrow
   - mouthcare, HOB elevated
   .
   # Leukocytosis / Fever
 developed 4 hours after reintubation. Patient
   was intubated uneventfully and patient was NPO 48 hours prior to
   procedure. Differential includes VAP vs. aspiration PNA vs aspiration
   pneumonitis. Leukocytosis also in the setting diarrhea and prolonged
   hospitalization could be consistent with c diff.
   -          f/u BC, UC, cdiff toxin, mini-BAL, and endobronchial
   aspirate cx (neg gram stain on mini BAL)
   -          treating c diff with IV Flagyl and PO vanc , placed on
   contact precautions (started [**2-23**]), first c diff negative, if second
   negative, will stop tx for c diff
   -          treating VAP with IV vanc, doripenem and cipro (started
   [**2-23**], cipro to dbl cover pseudomonas), will stop VAP abx on [**2-27**] if
   cultures negative, sputum cx showing GNR, pending speciation
   -          yeast in urine, if foley >3d old will change foley
   .
   # Tachycardia
 similar to previous, could be from infection or
   hypovolemia. Could also be MAT given resp problems. [**Name (NI) 3107**] [**Name2 (NI) 5863**]
   agents.  Responded to fluid boluses [**2-23**].
   -          Sinus tach on EKG [**2-23**]
   -          Fluid challenge PRN
   -          Hold anti-HTN meds
   .
   # Resolved ARF: Pre-renal from hypovolemia/sepsis, now improved.
   .
   # s/p recent NSTEMI - Denied CP in ED. EKGs with sinus tach in 140s,
   LBBB and non-specific changes from baseline. Cardiac enzymes negative.
   - continue Aspirin 325mg & Atorvastatin 40mg daily.
   - continue to monitor on telemetry, follow EKGs
   - cont metoprolol to 25mg [**Hospital1 7**]; will consider changing as is possible to
   cause bronchospasm, could try diltiazem
   .
   # Hct drop: Baseline hct in high 30s, down to 25 after 10L of IVF.  Pt
   was clinically hypovolemic on admission with HR 140s.
   Transfused one unit PRBC [**2-16**].
   - will transfuse 1U PRBC today
   .
   # Depression
 Celexa 10mg PO daily started for passive SI
   .
   # Osteopenia
 was on fosamax as outpatient, in setting of steroid use
   will start Ca/Vit D
   - Ca and Vit D supplementation for now
   - re-start fosamax when respiratory status starts to stabilize
   .
   # FEN: cont TFs, 40cc/hr, running at goal, nutrition following,
   awaiting PEG
   .
   # Prophylaxis: heparin sc BID, PPI
   .
   # Access: Left PIV 18 gauge, left PICC
   .
   # Code: FULL
   .
   # Communication
 with patient and niece
   .
   # Disposition: case management aware of need for rehab planning
   -          Social work consult placed [**2-16**], PT/OT c/s placed [**2-19**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-24**] 05:30 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   20 Gauge - [**2158-2-23**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-25 11:54:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   COPD flare, persistent resp failure
   trach and peg scheduled for monday
   24 Hour Events:
   Stable on vent
   History obtained from HO
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2158-2-22**] 10:00 PM
   Ciprofloxacin - [**2158-2-24**] 10:00 PM
   Vancomycin - [**2158-2-25**] 07:45 AM
   Metronidazole - [**2158-2-25**] 10:57 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-24**] 04:00 PM
   Lorazepam (Ativan) - [**2158-2-24**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-25**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 109 (76 - 109) bpm
   BP: 143/60(81) {111/40(62) - 161/82(100)} mmHg
   RR: 19 (15 - 25) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,615 mL
                                                                  1,934 mL
   PO:
             TF:
                                                                    180 mL
                                                                    467 mL
   IVF:
                                                                  1,750 mL
                                                                    567 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,580 mL
                                                                    795 mL
   Urine:
                                                                  1,530 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,035 mL
                                                                  1,139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 443 (430 - 537) mL
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 17 cmH2O
   SpO2: 91%
   ABG: ///31/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished, no wheezes
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   301 K/uL
   70 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.6 mEq/L
   13 mg/dL
   102 mEq/L
   135 mEq/L
   25.6 %
   25.0 K/uL
        [image002.jpg]
                             [**2158-2-18**]  03:32 AM
                             [**2158-2-18**]  05:20 PM
                             [**2158-2-19**]  03:01 AM
                             [**2158-2-20**]  03:13 AM
                             [**2158-2-21**]  01:55 AM
                             [**2158-2-22**]  03:55 AM
                             [**2158-2-23**]  03:16 AM
                             [**2158-2-24**]  03:22 AM
                             [**2158-2-24**]  08:21 PM
                             [**2158-2-25**]  03:10 AM
   WBC
   20.7
   16.7
   17.7
   17.5
   19.5
   41.1
   31.2
   25.0
   Hct
   29.8
   26.2
   25.6
   25.8
   25.0
   28.0
   22.4
   30.2
   25.6
   Plt
   279
   251
   258
   [**Telephone/Fax (2) 5886**]01
   Cr
   0.9
   0.9
   0.8
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   Glucose
   102
   160
   102
   106
   76
   72
   135
   79
   70
   Other labs: PT / PTT / INR:14.4/32.5/1.3, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.8 %, Lymph:1.6 %, Mono:2.3 %, Eos:0.3 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.2 g/dL, LDH:315 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Microbiology: UA neg
   CDiff neg
   Assessment and Plan
 ALTERATION IN NUTRITION - g-tube scheduled for monday
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]) - related to COPD and VAP,
   trach scheduled, wean prednisone, cont bronchodilators
 VAP - continue abx, stop on monday if stabe
   diarrhea - on treatment for CDiff for now, repeat
   CAD - continue current regimen
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-24**] 05:30 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   20 Gauge - [**2158-2-23**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2158-02-26 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-25**] Events:
   - stopped cipro
   - NG tube replaced
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2158-2-24**] 10:00 PM
   Vancomycin - [**2158-2-25**] 08:19 PM
   Metronidazole - [**2158-2-26**] 04:10 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2158-2-25**] 03:11 PM
   Pantoprazole (Protonix) - [**2158-2-25**] 04:29 PM
   Labetalol - [**2158-2-25**] 06:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-26**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 97 (75 - 135) bpm
   BP: 149/94(107) {111/47(63) - 188/94(108)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,012 mL
                                                                    533 mL
   PO:
             TF:
                                                                    682 mL
                                                                    266 mL
   IVF:
                                                                    900 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    750 mL
   Urine:
                                                                  1,920 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,092 mL
                                                                   -217 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 499 (412 - 537) mL
   PS : 8 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 17 cmH2O
   SpO2: 94%
   ABG: ///32/
   Ve: 10.1 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, intubated; not sedated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Wheezes : , Diminished: ),
   mild rhonchi diffusedly
   Abdominal: Soft, Non-tender, ND, no hsm, normoactive BS
   Extremities: Right: 2+, Left: 2+, significant BLE edema with skin
   weeping
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, interactive appropriately, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   381 K/uL
   9.5 g/dL
   90 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.9 mEq/L
   14 mg/dL
   102 mEq/L
   138 mEq/L
   28.7 %
   19.7 K/uL
        [image002.jpg]
                             [**2158-2-18**]  05:20 PM
                             [**2158-2-19**]  03:01 AM
                             [**2158-2-20**]  03:13 AM
                             [**2158-2-21**]  01:55 AM
                             [**2158-2-22**]  03:55 AM
                             [**2158-2-23**]  03:16 AM
                             [**2158-2-24**]  03:22 AM
                             [**2158-2-24**]  08:21 PM
                             [**2158-2-25**]  03:10 AM
                             [**2158-2-26**]  03:54 AM
   WBC
   16.7
   17.7
   17.5
   19.5
   41.1
   31.2
   25.0
   19.7
   Hct
   26.2
   25.6
   25.8
   25.0
   28.0
   22.4
   30.2
   25.6
   28.7
   Plt
   [**Telephone/Fax (3) 5912**]
   301
   381
   Cr
   0.9
   0.8
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   0.5
   Glucose
   160
   102
   106
   76
   72
   135
   79
   70
   90
   Other labs: PT / PTT / INR:13.7/28.5/1.2, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.8 %, Lymph:1.6 %, Mono:2.3 %, Eos:0.3 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.2 g/dL, LDH:315 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   70 y/o F with severe COPD who presents with acute hypoxic respiratory
   failure, now intubated.
   .
   # Resp failure: Pt with severe underlying COPD who p/w fever, hypoxia,
   leukocytosis and infiltrates likely c/w acute PNA.  She received
   Ceftriaxone/Levo in ED though current sputum with pleomorphic gram neg
   coccobaccili likely c/w prior sputums of H.Flu.  Prior sputums have
   been colonized with serratia, aspergillus, MAC, pseudomonas.   Patient
   had a component of hypercarbic resp failure given MS changes & elevated
   serum bicarb. Patient was started on vanc/zosyn. Vanc was d/c
ed once
   it was growth was gram negative. Zosyn was changed to ceftriaxone when
   speciated to H. flu beta-lactamase negative. Patient completed [**11-18**]
   day course of HAP and steroid taper when patient passed SBT and was
   extubated. Patient remained extubated for 12 hours and developed sinus
   tachycardia (in the setting of beta blocker withdrawl), tachypnea,
   accessory muscle use and desaturation to low 90s. Patient was given
   trial of nebs and CPAP, patient continued to retain CO2 and patient was
   intubated on [**2-23**]. Patient has very poor respiratory reserve and will
   require long-term trach.
   - s/p ceftriaxone course for h.flu; now being treating for pseudomonas
   [**Month/Year (2) 3396**]
   - patient to get Trach/PEG on Monday
   - continue prednisone, now on 40 mg daily for the next three days, and
   will continue taper
   - mouthcare, HOB elevated
   .
   # Leukocytosis / Fever
 developed 4 hours after reintubation. Patient
   was intubated uneventfully and patient was NPO 48 hours prior to
   procedure. Likely [**Name (NI) 3396**], pt improving with decreasing leukocytosis, has
   not spiked since [**2-23**]
   -          f/u BC, UC, cdiff toxin, mini-BAL, and endobronchial
   aspirate cx (neg gram stain on mini BAL)
   -          first c.diff neg, stopped c.diff treatment
   -          treating [**Month/Year (2) 3396**] for pseudomonas plus one other GNR yet to be
   speciated with Vanco and doripenem for now, awaiting speciations
 will
   treat 7 days since last fever
   -          foley changed secondary to yeast
   .
   # Tachycardia
 similar to previous, could be from infection or
   hypovolemia v.anxiety. Could also be MAT given resp problems. [**Name (NI) 3107**]
   [**Name2 (NI) 5863**] agents.  Responded to fluid boluses [**2-23**], tachy with movement,
   when calm around 80s-90s.
   -          Sinus tach on EKG [**2-23**]
   -          Fluid challenge PRN
   -          Hold anti-HTN meds
   .
   # Resolved ARF: Pre-renal from hypovolemia/sepsis, now improved.
   .
   # s/p recent NSTEMI - Denied CP in ED. EKGs with sinus tach in 140s,
   LBBB and non-specific changes from baseline. Cardiac enzymes negative.
   - continue Aspirin 325mg & Atorvastatin 40mg daily
 will discuss
   aspirin with thoracic [**Doctor First Name 213**] team today.
   - continue to monitor on telemetry, follow EKGs
   - holding all [**Doctor First Name 5863**] agents at this time; afib responds to metoprolol if
   she goes into it, dilt did not work as well
   .
   # Hct drop: Baseline hct in high 30s, down to 25 after 10L of IVF.
   Dropped over course of hospitalization, s/p transfusion again on [**2-24**];
   now stabalized.  Anemia likey from phlebotomy, chronic disease
   Transfused one unit PRBC [**2-16**], on on [**2-24**]
   - cont to trend
   .
   # Depression
 Celexa 10mg PO daily started for passive SI
   .
   # Osteopenia
 was on fosamax as outpatient, in setting of steroid use
   will start Ca/Vit D
   - Ca and Vit D supplementation for now
   - re-start fosamax when respiratory status starts to stabilize
   .
   # FEN: cont TFs, 40cc/hr, running at goal, nutrition following,
   awaiting PEG, npo at midnight for procedure tomorrow
   .
   # Prophylaxis: heparin sc BID, PPI
   .
   # Access: Left PIV 18 gauge, left PICC
   .
   # Code: FULL
   .
   # Communication
 with patient and niece
   .
   # Disposition: case management aware of need for rehab planning
   -          Social work consult placed [**2-16**], PT/OT c/s placed [**2-19**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-26**] 12:05 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   20 Gauge - [**2158-2-23**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   [**Year (4 digits) 3396**]:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-26 10:21:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   cipro stopped
   NG tube replaced
   stable on vent
   WBC improving
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2158-2-24**] 10:00 PM
   Metronidazole - [**2158-2-26**] 04:10 AM
   Vancomycin - [**2158-2-26**] 07:40 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-25**] 04:29 PM
   Labetalol - [**2158-2-25**] 06:35 PM
   Lorazepam (Ativan) - [**2158-2-26**] 08:16 AM
   Other medications:
   ASA
   prednisone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-26**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 98 (75 - 135) bpm
   BP: 154/73(92) {111/47(63) - 188/94(108)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,012 mL
                                                                  1,001 mL
   PO:
             TF:
                                                                    682 mL
                                                                    400 mL
   IVF:
                                                                    900 mL
                                                                    401 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                  1,330 mL
   Urine:
                                                                  1,920 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,092 mL
                                                                   -329 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 462 (412 - 515) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20s
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: ///32/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   381 K/uL
   90 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.9 mEq/L
   14 mg/dL
   102 mEq/L
   138 mEq/L
   28.7 %
   19.7 K/uL
        [image002.jpg]
                             [**2158-2-18**]  05:20 PM
                             [**2158-2-19**]  03:01 AM
                             [**2158-2-20**]  03:13 AM
                             [**2158-2-21**]  01:55 AM
                             [**2158-2-22**]  03:55 AM
                             [**2158-2-23**]  03:16 AM
                             [**2158-2-24**]  03:22 AM
                             [**2158-2-24**]  08:21 PM
                             [**2158-2-25**]  03:10 AM
                             [**2158-2-26**]  03:54 AM
   WBC
   16.7
   17.7
   17.5
   19.5
   41.1
   31.2
   25.0
   19.7
   Hct
   26.2
   25.6
   25.8
   25.0
   28.0
   22.4
   30.2
   25.6
   28.7
   Plt
   [**Telephone/Fax (2) 5912**]
   301
   381
   Cr
   0.9
   0.8
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   0.5
   Glucose
   160
   102
   106
   76
   72
   135
   79
   70
   90
   Other labs: PT / PTT / INR:13.7/28.5/1.2, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.8 %, Lymph:1.6 %, Mono:2.3 %, Eos:0.3 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.2 g/dL, LDH:315 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION - g-tube scheduled for monday
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]) - related to COPD and VAP,
   trach scheduled, wean prednisone, cont bronchodilators
 pseudomonas VAP - continue abx, complete 7 day course
   diarrhea - improved, on treatment for [**Last Name (LF) **], [**First Name3 (LF) **] stop
   CAD - continue current regimen
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-26**] 12:05 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   20 Gauge - [**2158-2-23**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2158-02-27 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/c'ed c.diff antibiotics
   - plan for 7 day course of [** 3396**] since last fever on [**2-23**]
   - requested [**First Name9 (NamePattern2) 5924**] [**Last Name (un) 270**] for her pseudomonas
   - plan for trach/peg on monday as add on
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2158-2-24**] 10:00 PM
   Metronidazole - [**2158-2-26**] 10:14 AM
   Vancomycin - [**2158-2-26**] 08:51 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-26**] 05:03 PM
   Heparin Sodium (Prophylaxis) - [**2158-2-26**] 08:01 PM
   Lorazepam (Ativan) - [**2158-2-26**] 11:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-27**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.6
C (96
   HR: 82 (73 - 116) bpm
   BP: 132/60(76) {106/44(61) - 181/84(107)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,439 mL
                                                                    207 mL
   PO:
             TF:
                                                                    959 mL
                                                                     41 mL
   IVF:
                                                                  1,050 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  2,590 mL
                                                                    550 mL
   Urine:
                                                                  2,590 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -151 mL
                                                                   -343 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 545 (462 - 545) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: ///34/
   Ve: 9 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, intubated; not sedated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Wheezes : , Diminished: ),
   mild rhonchi diffusedly
   Abdominal: Soft, Non-tender, ND, no hsm, normoactive BS
   Extremities: Right: 2+, Left: 2+, significant BLE edema with skin
   weeping
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, interactive appropriately, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   391 K/uL
   9.6 g/dL
   82 mg/dL
   0.5 mg/dL
   34 mEq/L
   4.1 mEq/L
   16 mg/dL
   101 mEq/L
   139 mEq/L
   30.0 %
   15.9 K/uL
        [image002.jpg]
                             [**2158-2-19**]  03:01 AM
                             [**2158-2-20**]  03:13 AM
                             [**2158-2-21**]  01:55 AM
                             [**2158-2-22**]  03:55 AM
                             [**2158-2-23**]  03:16 AM
                             [**2158-2-24**]  03:22 AM
                             [**2158-2-24**]  08:21 PM
                             [**2158-2-25**]  03:10 AM
                             [**2158-2-26**]  03:54 AM
                             [**2158-2-27**]  03:56 AM
   WBC
   16.7
   17.7
   17.5
   19.5
   41.1
   31.2
   25.0
   19.7
   15.9
   Hct
   26.2
   25.6
   25.8
   25.0
   28.0
   22.4
   30.2
   25.6
   28.7
   30.0
   Plt
   [**Telephone/Fax (2) 5912**]
   [**Telephone/Fax (3) 5925**]
   Cr
   0.8
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   0.5
   0.5
   Glucose
   102
   106
   76
   72
   135
   79
   70
   90
   82
   Other labs: PT / PTT / INR:14.0/29.9/1.2, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.8 %, Lymph:1.6 %, Mono:2.3 %, Eos:0.3 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.2 g/dL, LDH:315 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   70 y/o F with severe COPD who presents with acute hypoxic respiratory
   failure, now intubated.
   .
   # Resp failure: Pt with severe underlying COPD who p/w fever, hypoxia,
   leukocytosis and infiltrates likely c/w acute PNA.  She received
   Ceftriaxone/Levo in ED though current sputum with pleomorphic gram neg
   coccobaccili likely c/w prior sputums of H.Flu.  Prior sputums have
   been colonized with serratia, aspergillus, MAC, pseudomonas.   Patient
   had a component of hypercarbic resp failure given MS changes & elevated
   serum bicarb. Patient was started on vanc/zosyn. Vanc was d/c
ed once
   it was growth was gram negative. Zosyn was changed to ceftriaxone when
   speciated to H. flu beta-lactamase negative. Patient completed [**11-18**]
   day course of HAP and steroid taper when patient passed SBT and was
   extubated. Patient remained extubated for 12 hours and developed sinus
   tachycardia (in the setting of beta blocker withdrawl), tachypnea,
   accessory muscle use and desaturation to low 90s. Patient was given
   trial of nebs and CPAP, patient continued to retain CO2 and patient was
   intubated on [**2-23**]. Patient has very poor respiratory reserve and will
   require long-term trach.
   - s/p ceftriaxone course for h.flu; now being treating for pseudomonas
   [**Month/Year (2) 3396**] with vanc/[**Doctor First Name **] -> 2 week course from [**2-23**]
   - patient to get Trach/PEG as add-on today
   - continue prednisone, now on 40 mg daily for the next three days, and
   will continue taper
   - mouthcare, HOB elevated
   .
   # Leukocytosis / Fever
 developed 4 hours after reintubation. Patient
   was intubated uneventfully and patient was NPO 48 hours prior to
   procedure. Likely [**Name (NI) 3396**], pt improving with decreasing leukocytosis, has
   not spiked since [**2-23**]
   -          f/u BC, UC, cdiff toxin, mini-BAL, and endobronchial
   aspirate cx (neg gram stain on mini BAL)
   -          first c.diff neg, stopped c.diff treatment
   -          treating [**Month/Year (2) 3396**] for pseudomonas plus one other GNR yet to be
   speciated with Vanco and [**Month/Year (2) 5924**] for now, awaiting speciations
 will
   treat 7 days since last fever
   -          foley changed secondary to yeast
   .
   # Tachycardia
 similar to previous, could be from infection or
   hypovolemia or anxiety. Could also be MAT given resp problems. [**Name (NI) 3107**]
   [**Name2 (NI) 5863**] agents.  Responded to fluid boluses [**2-23**], tachy with movement,
   when calm around 80s-90s.
   -          Sinus tach on EKG [**2-23**]
   -          Fluid challenge PRN
   -          Hold anti-HTN meds
   .
   # Resolved ARF: Pre-renal from hypovolemia/sepsis, now improved.
   .
   # s/p recent NSTEMI - Denied CP in ED. EKGs with sinus tach in 140s,
   LBBB and non-specific changes from baseline. Cardiac enzymes negative.
   - continue Aspirin 325mg & Atorvastatin 40mg daily
 will discuss
   aspirin with thoracic [**Doctor First Name 213**] team today.
   - continue to monitor on telemetry, follow EKGs
   - holding all [**Doctor First Name 5863**] agents at this time; afib responds to metoprolol if
   she goes into it, dilt did not work as well
   .
   # Hct drop: Baseline hct in high 30s, down to 25 after 10L of IVF.
   Dropped over course of hospitalization, s/p transfusion again on [**2-24**];
   now stabalized.  Anemia likey from phlebotomy, chronic disease
   Transfused one unit PRBC [**2-16**], on on [**2-24**]
   - cont to trend
   .
   # Depression
 Celexa 10mg PO daily started for passive SI
   .
   # Osteopenia
 was on fosamax as outpatient, in setting of steroid use
   will start Ca/Vit D
   - Ca and Vit D supplementation for now
   - re-start fosamax when respiratory status starts to stabilize
   .
   # FEN: cont TFs, 40cc/hr, running at goal, nutrition following,
   awaiting PEG, npo at midnight for procedure tomorrow
   .
   # Prophylaxis: heparin sc BID, PPI
   .
   # Access: Left PIV 18 gauge, left PICC
   .
   # Code: FULL
   .
   # Communication
 with patient and niece
   .
   # Disposition: case management aware of need for rehab planning
   -          Social work consult placed [**2-16**], PT/OT c/s placed [**2-19**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   20 Gauge - [**2158-2-23**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   [**Year (4 digits) 3396**]:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-28 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-27**] Events:
   - will need to change doripenem to meropenem 1g q8h for rehab
   - got Trach/PEG
   - hypertensive all day -> started back on home dose dilt and added
   captopril for increased afterload reduction
 PERCUTANEOUS TRACHEOSTOMY - At [**2158-2-27**] 01:00 PM
   teach/PEG placement
 TRANSTHORACIC ECHO - At [**2158-2-27**] 02:27 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2158-2-26**] 10:14 AM
   Vancomycin - [**2158-2-27**] 03:05 PM
   Infusions:
   Other ICU medications:
   Vecuronium - [**2158-2-27**] 12:55 PM
   Propofol - [**2158-2-27**] 01:00 PM
   Furosemide (Lasix) - [**2158-2-27**] 02:45 PM
   Fentanyl - [**2158-2-27**] 06:29 PM
   Lorazepam (Ativan) - [**2158-2-28**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-28**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 77 (68 - 104) bpm
   BP: 118/54(69) {88/40(54) - 170/98(107)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.7 kg (admission): 60.5 kg
   Height: 67 Inch
             Total In:
                                                                    953 mL
                                                                    313 mL
   PO:
             TF:
                                                                     41 mL
   IVF:
                                                                    831 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                  3,190 mL
                                                                    510 mL
   Urine:
                                                                  3,140 mL
                                                                    510 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,238 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 405 (340 - 550) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///39/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, new trach in place, slight
   amount of dried blood, otherwise clean
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Wheezes : , Diminished: ),
   mild rhonchi diffusedly
   Abdominal: Soft, Non-tender, ND, no hsm, normoactive BS
   Extremities: Right: 2+, Left: 2+, significant BLE edema with skin
   weeping
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, interactive appropriately, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   410 K/uL
   9.8 g/dL
   81 mg/dL
   0.5 mg/dL
   39 mEq/L
   3.9 mEq/L
   15 mg/dL
   98 mEq/L
   139 mEq/L
   30.3 %
   15.7 K/uL
        [image002.jpg]
                             [**2158-2-20**]  03:13 AM
                             [**2158-2-21**]  01:55 AM
                             [**2158-2-22**]  03:55 AM
                             [**2158-2-23**]  03:16 AM
                             [**2158-2-24**]  03:22 AM
                             [**2158-2-24**]  08:21 PM
                             [**2158-2-25**]  03:10 AM
                             [**2158-2-26**]  03:54 AM
                             [**2158-2-27**]  03:56 AM
                             [**2158-2-28**]  04:00 AM
   WBC
   17.7
   17.5
   19.5
   41.1
   31.2
   25.0
   19.7
   15.9
   15.7
   Hct
   25.6
   25.8
   25.0
   28.0
   22.4
   30.2
   25.6
   28.7
   30.0
   30.3
   Plt
   258
   284
   310
   349
   [**Telephone/Fax (2) 5950**]91
   410
   Cr
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   0.5
   0.5
   0.5
   Glucose
   106
   76
   72
   135
   79
   70
   90
   82
   81
   Other labs: PT / PTT / INR:14.3/34.1/1.2, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.8 %, Lymph:1.6 %, Mono:2.3 %, Eos:0.3 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.2 g/dL, LDH:315 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Assessment and Plan
   70 y/o F with severe COPD who presents with acute hypoxic respiratory
   failure, now intubated.
   .
   # Resp failure: Pt with severe underlying COPD who p/w fever, hypoxia,
   leukocytosis and infiltrates likely c/w acute PNA.  She received
   Ceftriaxone/Levo in ED though current sputum with pleomorphic gram neg
   coccobaccili likely c/w prior sputums of H.Flu.  Prior sputums have
   been colonized with serratia, aspergillus, MAC, pseudomonas.   Patient
   had a component of hypercarbic resp failure given MS changes & elevated
   serum bicarb. Patient was started on vanc/zosyn. Vanc was d/c
ed once
   it was growth was gram negative. Zosyn was changed to ceftriaxone when
   speciated to H. flu beta-lactamase negative. Patient completed [**11-18**]
   day course of HAP and steroid taper when patient passed SBT and was
   extubated. Patient remained extubated for 12 hours and developed sinus
   tachycardia (in the setting of beta blocker withdrawl), tachypnea,
   accessory muscle use and desaturation to low 90s. Patient was given
   trial of nebs and CPAP, patient continued to retain CO2 and patient was
   intubated on [**2-23**]. Patient has very poor respiratory reserve and will
   require long-term trach.
   - trach and peg placed [**2-27**], in place and doing well
   - did not tolerate trach mask trial secondary to anxiety and feeling
   SOB, will continue with PS 5/5 and do trials as tolerated
   - s/p ceftriaxone course for h.flu; now being treating for pseudomonas
   [**Month/Year (2) 3396**] with [**Doctor First Name **] -> 2 week course from [**2-23**], plan on switching to
   meropenem 1 gm q 8 hr when goes to rehab
   - stopped vanco today
   - continue prednisone, now on 30 mg from 40 mg, and will continue
   taper; goal to get to 10 mg for baseline and continue on 10 for the
   long term
   - mouthcare, HOB elevated
   .
   # Leukocytosis / Fever
 has now resolved with treatment of presumed
   [**Month/Year (2) 3396**].  developed 4 hours after reintubation. Patient was intubated
   uneventfully and patient was NPO 48 hours prior to procedure. Likely
   [**Name (NI) 3396**], pt improving with decreasing leukocytosis, has not spiked since
   [**2-23**]
   - growing pseudomonas, [**Last Name (un) 270**] to [**Last Name (un) 614**]; responding to doripenem and plan
   on continuing until transfer to rehab
   .
   # Anxiety
 has underlying anxiety, was receiving boluses of ativan as
   needed
   - adding clonapin for longer acting antianxietolytic
   .
   # HTN -  running slightly hypertensive now that [**Last Name (un) 3396**] is resolving, could
   be secondary to anxiety vs. essential hypertension
   - added home dilt back on
   - captopril added as well, getting good effects, can titrate as needed
   .
   # Resolved ARF: Pre-renal from hypovolemia/sepsis, now improved.
   .
   # s/p recent NSTEMI - Denied CP in ED. EKGs with sinus tach in 140s,
   LBBB and non-specific changes from baseline. Cardiac enzymes negative.
   - continue Aspirin 325mg & Atorvastatin 40mg daily
   - tolerated BB for rate control, but using dilt if we can due to
   potential bronchospastic properties
   .
   # Hct drop: Baseline hct in high 30s, down to 25 after 10L of IVF.
   Dropped over course of hospitalization, s/p transfusion again on [**2-24**];
   now stabalized.  Anemia likey from phlebotomy, chronic disease
   Transfused one unit PRBC [**2-16**], now stable
   - cont to trend
   .
   # Depression
 Celexa 10mg PO daily started for passive SI
   .
   # Osteopenia
 was on fosamax as outpatient, in setting of steroid use
   will start Ca/Vit D
   - Ca and Vit D supplementation for now
   - re-start fosamax when respiratory status starts to stabilize
   .
   # FEN: PEG placed, doing well, restarting TFs today after thoracic
   evaluates
   .
   # Prophylaxis: heparin sc BID, PPI
   .
   # Access: Left PIV 18 gauge, PICC
   .
   # Code: FULL
   .
   # Communication
 with patient and niece
   .
   # Disposition: case management aware of need for rehab planning
   -          Social work consult placed [**2-16**], PT/OT c/s placed [**2-19**]
   -          Likely to rehab later this week
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   [**Year (4 digits) 3396**]:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-03-01 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-28**] Events:
   d/ced vanco
   given IV lasix 20 x3
   tapered prednisone from 20 to 10mg PO daily
   started clonazepam standing
   successful of trach mask
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2158-2-26**] 10:14 AM
   Vancomycin - [**2158-2-27**] 03:05 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-28**] 09:49 AM
   Furosemide (Lasix) - [**2158-3-1**] 12:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-1**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 85 (69 - 98) bpm
   BP: 123/45(63) {91/41(54) - 158/70(90)} mmHg
   RR: 15 (12 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.7 kg (admission): 60.5 kg
   Height: 67 Inch
             Total In:
                                                                    885 mL
                                                                    599 mL
   PO:
             TF:
                                                                    185 mL
                                                                    231 mL
   IVF:
                                                                    451 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                  3,115 mL
                                                                    975 mL
   Urine:
                                                                  3,115 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,230 mL
                                                                   -376 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: Standby
   Vt (Spontaneous): 315 (315 - 419) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: ///40/
   Ve: 5.6 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, new trach in place, slight
   amount of dried blood, otherwise clean
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Wheezes : , Diminished: ),
   mild rhonchi diffusedly
   Abdominal: Soft, Non-tender, ND, no hsm, normoactive BS
   Extremities: Right: 2+, Left: 2+, significant BLE edema with skin
   weeping
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, interactive appropriately, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   422 K/uL
   10.3 g/dL
   95 mg/dL
   0.5 mg/dL
   40 mEq/L
   3.7 mEq/L
   15 mg/dL
   92 mEq/L
   139 mEq/L
   31.1 %
   15.3 K/uL
        [image002.jpg]
                             [**2158-2-21**]  01:55 AM
                             [**2158-2-22**]  03:55 AM
                             [**2158-2-23**]  03:16 AM
                             [**2158-2-24**]  03:22 AM
                             [**2158-2-24**]  08:21 PM
                             [**2158-2-25**]  03:10 AM
                             [**2158-2-26**]  03:54 AM
                             [**2158-2-27**]  03:56 AM
                             [**2158-2-28**]  04:00 AM
                             [**2158-3-1**]  03:05 AM
   WBC
   17.5
   19.5
   41.1
   31.2
   25.0
   19.7
   15.9
   15.7
   15.3
   Hct
   25.8
   25.0
   28.0
   22.4
   30.2
   25.6
   28.7
   30.0
   30.3
   31.1
   Plt
   [**Telephone/Fax (2) 5964**]10
   422
   Cr
   0.7
   0.6
   0.7
   0.7
   0.6
   0.5
   0.5
   0.5
   0.5
   Glucose
   76
   72
   135
   79
   70
   90
   82
   81
   95
   Other labs: PT / PTT / INR:13.8/35.1/1.2, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:71/113, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:95.8 %, Lymph:1.6 %, Mono:2.3 %, Eos:0.3 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.2 g/dL, LDH:315 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   70 y/o F with severe COPD who presents with acute hypoxic respiratory
   failure, now intubated.
   .
   # Resp failure: Pt with severe underlying COPD who p/w fever, hypoxia,
   leukocytosis and infiltrates likely c/w acute PNA.  She received
   Ceftriaxone/Levo in ED though current sputum with pleomorphic gram neg
   coccobaccili likely c/w prior sputums of H.Flu.  Prior sputums have
   been colonized with serratia, aspergillus, MAC, pseudomonas.   Patient
   had a component of hypercarbic resp failure given MS changes & elevated
   serum bicarb. Patient was started on vanc/zosyn. Vanc was d/c
ed once
   it was growth was gram negative. Zosyn was changed to ceftriaxone when
   speciated to H. flu beta-lactamase negative. Patient completed [**11-18**]
   day course of HAP and steroid taper when patient passed SBT and was
   extubated. Patient remained extubated for 12 hours and developed sinus
   tachycardia (in the setting of beta blocker withdrawl), tachypnea,
   accessory muscle use and desaturation to low 90s. Patient was given
   trial of nebs and CPAP, patient continued to retain CO2 and patient was
   intubated on [**2-23**]. Patient has very poor respiratory reserve and will
   require long-term trach.
   - trach and peg placed [**2-27**], in place and doing well
   - did not tolerate trach mask trial secondary to anxiety and feeling
   SOB, will continue with PS 5/5 and do trials as tolerated
   - s/p ceftriaxone course for h.flu; now being treating for pseudomonas
   [**Month/Year (2) 3396**] with [**Doctor First Name **] -> 2 week course from [**2-23**], plan on switching to
   meropenem 1 gm q 8 hr when goes to rehab
   - stopped vanco today
   - continue prednisone, now on 30 mg from 40 mg, and will continue
   taper; goal to get to 10 mg for baseline and continue on 10 for the
   long term
   - mouthcare, HOB elevated
   .
   # Leukocytosis / Fever
 has now resolved with treatment of presumed
   [**Month/Year (2) 3396**].  developed 4 hours after reintubation. Patient was intubated
   uneventfully and patient was NPO 48 hours prior to procedure. Likely
   [**Name (NI) 3396**], pt improving with decreasing leukocytosis, has not spiked since
   [**2-23**]
   - growing pseudomonas, [**Last Name (un) 270**] to [**Last Name (un) 614**]; responding to doripenem and plan
   on continuing until transfer to rehab
   .
   # Anxiety
 has underlying anxiety, was receiving boluses of ativan as
   needed
   - adding clonapin for longer acting antianxietolytic
   .
   # HTN -  running slightly hypertensive now that [**Last Name (un) 3396**] is resolving, could
   be secondary to anxiety vs. essential hypertension
   - added home dilt back on
   - captopril added as well, getting good effects, can titrate as needed
   .
   # Resolved ARF: Pre-renal from hypovolemia/sepsis, now improved.
   .
   # s/p recent NSTEMI - Denied CP in ED. EKGs with sinus tach in 140s,
   LBBB and non-specific changes from baseline. Cardiac enzymes negative.
   - continue Aspirin 325mg & Atorvastatin 40mg daily
   - tolerated BB for rate control, but using dilt if we can due to
   potential bronchospastic properties
   .
   # Hct drop: Baseline hct in high 30s, down to 25 after 10L of IVF.
   Dropped over course of hospitalization, s/p transfusion again on [**2-24**];
   now stabalized.  Anemia likey from phlebotomy, chronic disease
   Transfused one unit PRBC [**2-16**], now stable
   - cont to trend
   .
   # Depression
 Celexa 10mg PO daily started for passive SI
   .
   # Osteopenia
 was on fosamax as outpatient, in setting of steroid use
   will start Ca/Vit D
   - Ca and Vit D supplementation for now
   - re-start fosamax when respiratory status starts to stabilize
   .
   # FEN: PEG placed, doing well, restarting TFs today after thoracic
   evaluates
   .
   # Prophylaxis: heparin sc BID, PPI
   .
   # Access: Left PIV 18 gauge, PICC
   .
   # Code: FULL
   .
   # Communication
 with patient and niece
   .
   # Disposition: case management aware of need for rehab planning
   -          Social work consult placed [**2-16**], PT/OT c/s placed [**2-19**]
   -          Likely to rehab later this week
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-1**] 04:04 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-12**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   [**Year (4 digits) 3396**]:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: